2144-05-05 06:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2144-5-4**] 10:04 PM
   Intubated this morning for airway protection, Phenobarbital loading.
   Family is aware of situation, continues to not want compressions/shocks
   (but intubation for airway protection okay).
   Allergies:
   Amoxicillin
   Nausea/Vomiting
   Last dose of Antibiotics:
   Acyclovir - [**2144-5-5**] 12:00 AM
   Vancomycin
   Cefepime
   Infusions:
   Other ICU medications:
   Dilantin - [**2144-5-5**] 03:58 AM
   Keppra 1000mg IV Q8H
   Leucovorin
   Lopressor
   Decadron
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-5-5**] 06:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.2
C (97.2
   HR: 84 (71 - 87) bpm
   BP: 156/95(166) {134/72(85) - 158/121(184)} mmHg
   RR: 19 (18 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    278 mL
                                                                    902 mL
   PO:
             TF:
   IVF:
                                                                    278 mL
                                                                    902 mL
   Blood products:
   Total out:
                                                                    600 mL
                                                                  1,380 mL
   Urine:
                                                                    600 mL
                                                                  1,380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -322 mL
                                                                   -478 mL
   Respiratory support
   SpO2: 97%
   AC 450/14, PEEP 5, FiO2 50%
   ABG: ///32/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   198 K/uL
   9.9 g/dL
   99 mg/dL
   0.8 mg/dL
   32 mEq/L
   3.8 mEq/L
   10 mg/dL
   96 mEq/L
   139 mEq/L
   28.8 %
   9.3 K/uL
        [image002.jpg]
                             [**2144-5-5**]  03:31 AM
                             [**2144-5-5**]  05:00 AM
   WBC
   7.6
   9.3
   Hct
   23.4
   28.8
   Plt
   166
   198
   Cr
   0.7
   0.8
   Glucose
   396
   99
   Other labs: PT / PTT / INR:17.0/21.7/1.5, ALT / AST:16/13, Alk Phos / T
   Bili:56/0.3, Differential-Neuts:85.9 %, Lymph:9.6 %, Mono:4.2 %,
   Eos:0.2 %, Albumin:2.7 g/dL, Ca++:8.3 mg/dL, Mg++:1.7 mg/dL, PO4:2.1
   mg/dL
   Fluid analysis / Other labs: Phenytoin: 12.3, Methotrexate this AM
   0.04, yesterday 0.02
   Microbiology: GRAM STAIN (Final [**2144-5-3**]):
         1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         NO MICROORGANISMS SEEN.
         This is a concentrated smear made by cytospin method, please
   refer to
         hematology for a quantitative white blood cell count..
      FLUID CULTURE (Preliminary):    NO GROWTH.
   Assessment and Plan
 SEIZURE, WITH STATUS EPILEPTICUS
   75 y/o F with T Cell Lymphoma with CNS involvement with recurrent
   status epilepticus, non-convulsive, transferred to [**Hospital Unit Name 10**] for further
   management. Phenobarbital is indicated, and we have discussed with
   neurology on call, pharmacy, and anesthesia regarding elective
   intubation for phenobarbital management, airway protection. Have also
   discussed this with the son, who is okay with trial on intubation and
   phenobarb. Risks of intubation have been discussed with the family.
         Status Epilepticus: cause likely related to TCL in CNS
   - elective intubation for phenobarb. 20mg/kg IV x1, (1500mg given 75kg
   weight). BMT fellow paged to be made aware of this decision, reached
   with resident, RN, pharmacy, and intensivist overnight. Will clarify
   re: dosing and what maintenance dose should be.
   - Rechecked dilantin level in [**Hospital Unit Name 10**] and calculated out that her
   corrected dilantin was 15.6.  Aiming for between 16-18, will re-bolus
   her an additional 150mg in addition to her scheduled 100mg to achieve a
   higher trough.
   - Her access is also fully utilized now for bicarb infusion, dilantin
   presently, and will need access for sedation for vent.
   - Will continue Levetiracetam 1000 mg IV Q8HR
   - Continue dexamethasone
   - Will try and add on beta-2microglobulin, LDH, protein, VZV/HSV to CSF
   if quantity sufficient. Daily LFT
   - Neurology to continue following. Continue continuous EEG monitoring.
         Ventilatory support/intubation. Continue AC for now. Will
   check ABG and adjust ventilator as appropriate.
         Low Grade Fevers. She is on antibiotics given low grade
   fevers, on vanc/cefepime.  She is on acyclovir as well.
   Treatment course undefined as present, likely to be continued as counts
   drop though. Will clarify with BMT.
         T Cell Lymphoma: Dr. [**Last Name (STitle) 980**] is her neuro-oncologist.
   - Received CHOP, MTX, IT cytarabine
   - For MTX, continuing to alkalanize the urine, and following levels.
   continuing on leucovorin; will touch base with BMT re: further
   alkalinization and leucovorin.
   - Counts are dropping, will follow CBC and ANC.
         Hypertension:
   - On metoprolol currently
   - Following for now, can address hypertension with PRN hydralazine if
   needed
         Electrolyte Abnormalities
   - K, Mg repletion as needed
   ICU Care
   Nutrition: Nutrition consult, consider tube feeds (assuming no
   contraindications)
   Glycemic Control:
   Lines:
   PICC Line - [**2144-5-4**] 10:04 PM
   Attempt to open second port on PICC (currently blocked), two PIVs
   Prophylaxis:
   DVT: Pneumoboots, subQ heparin
   Stress ulcer: H2 blocker.
   VAP:  On VAP bundle.
   Comments:
   Communication:  Comments:
   Code status: Needs clarification. DNR per son (but order not entered
   into POE)
   Disposition: ICU for now

2144-05-05 10:52:00 Physician Attending Progress Note
Chief Complaint: status epilepticus
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   75 y.o. F with T-cell lymphoma with CNS involvement, admitted initially
   with febrile neutropenia, now in status [**Hospital 6033**] transferred to the
   ICU for induction phenobarb coma.
   24 Hour Events:
 PICC LINE - START [**2144-5-4**] 10:04 PM
   Intubated for airway protection
   History obtained from Medical records, ho
   Allergies:
   Amoxicillin
   Nausea/Vomiting
   Last dose of Antibiotics:
   Acyclovir - [**2144-5-5**] 12:00 AM
   Infusions:
   Other ICU medications:
   Dilantin - [**2144-5-5**] 03:58 AM
   Other medications:
   [**Month (only) **] reviewed
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-5-5**] 10:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.2
C (97.2
   HR: 66 (66 - 87) bpm
   BP: 149/59(80) {134/59(54) - 158/121(184)} mmHg
   RR: 15 (15 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    278 mL
                                                                    922 mL
   PO:
             TF:
   IVF:
                                                                    278 mL
                                                                    922 mL
   Blood products:
   Total out:
                                                                    600 mL
                                                                  1,580 mL
   Urine:
                                                                    600 mL
                                                                  1,580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -322 mL
                                                                   -658 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 4
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 23 cmH2O
   Plateau: 12 cmH2O
   SpO2: 98%
   ABG: ///32/
   Ve: 6.8 L/min
   Physical Examination
   Eyes / Conjunctiva: No(t) Pupils dilated, pupils constricted
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic),
   loud P2
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: No(t) Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed, upgoing babinskis
   Labs / Radiology
   9.9 g/dL
   198 K/uL
   99 mg/dL
   0.8 mg/dL
   32 mEq/L
   3.8 mEq/L
   10 mg/dL
   96 mEq/L
   139 mEq/L
   28.8 %
   9.3 K/uL
        [image002.jpg]
                             [**2144-5-5**]  03:31 AM
                             [**2144-5-5**]  05:00 AM
   WBC
   7.6
   9.3
   Hct
   23.4
   28.8
   Plt
   166
   198
   Cr
   0.7
   0.8
   Glucose
   396
   99
   Other labs: PT / PTT / INR:17.0/21.7/1.5, ALT / AST:16/13, Alk Phos / T
   Bili:56/0.3, Differential-Neuts:85.9 %, Lymph:9.6 %, Mono:4.2 %,
   Eos:0.2 %, Albumin:2.7 g/dL, Ca++:8.3 mg/dL, Mg++:1.7 mg/dL, PO4:2.1
   mg/dL
   Imaging: cxr--et high, clear lung fields
   Microbiology: reviewed--hsv skin lesions +
   [**4-14**] urine cx's enterocuccus
   recent bl/urine neg/ngtd
   Assessment and Plan
 SEIZURE, WITH STATUS EPILEPTICUS
   75 y.o. with T-cell lymphoma with CNS involvement, admitted with
   febrile neutropenia, now in nonconvulsant status [**Hospital 6033**]
   transferred to ICU for induction phenobarb coma, intubated for airway
   control.
    # Status epilepticus
in setting of known t-cell lymphoma with cns
   involvement. Neuro team helping to manage.  Continue keppra, dilantin
   (follow levels goal 16-18, adjusting for low albumin).  Start phenobarb
   induction clarifying dosing with neuro service.  No evidence of active
   csf infection from recent LP cx
s. Continue decadron.  Follow daily
   LFTs. Continuous eeg monitoring.
   #respiratory support
for airway control, cont ACV.  Check Abg and
   adjust settings accordingly.
   # Lymphoma/h/o febrile neutropenia--Continuing current antibx vanco
   cefepime regimen which we will clarify with the BMT serivce. On
   acyclovir for hsv pos cx from skin.  F/u recent cx data.  Remains on
   leucovorin  rescue given mtx--continue pending daily mtx levels.
   #HTN
continue Lopressor
   Remainder as per resident progress note.
   ICU Care
   Nutrition:  start TFs
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2144-5-4**] 10:04 PM, PIVs X 2
   Prophylaxis:
   DVT: sq heparin
   Stress ulcer:   H2b
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate) ; discuss with BMT.
   Disposition :ICU
   Critically ill
   Total time spent: 45 minutes

2144-05-06 07:09:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 103.0
F - [**2144-5-5**] 01:00 PM
   - No acute events
   - IV phenobarb load started, then continued w/maintenance of 5mg/kg
   [**Hospital1 **]; phenytoin/phenobarb levels pending in the AM
   - Continuous EEG show pt no longer in status yesterday evening
   - Continued on Bicarb gtt until MTX levels clear
   - Only one line on PICC functioning due to extravasation of phenytoin,
   old PICC to be removed and replaced by PICC team today
   Allergies:
   Amoxicillin
   Nausea/Vomiting
   Last dose of Antibiotics:
   Cefipime - [**2144-5-5**] 09:00 AM
   Acyclovir - [**2144-5-6**] 12:50 AM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Dilantin - [**2144-5-5**] 10:30 AM
   Famotidine (Pepcid) - [**2144-5-5**] 02:00 PM
   Heparin Sodium (Prophylaxis) - [**2144-5-6**] 06:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-5-6**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (103
   Tcurrent: 37.7
C (99.8
   HR: 65 (59 - 92) bpm
   BP: 160/62(84) {77/26(37) - 175/90(119)} mmHg
   RR: 14 (14 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  4,456 mL
                                                                    503 mL
   PO:
             TF:
   IVF:
                                                                  4,336 mL
                                                                    503 mL
   Blood products:
   Total out:
                                                                  4,480 mL
                                                                  1,430 mL
   Urine:
                                                                  4,480 mL
                                                                  1,430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -24 mL
                                                                   -927 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 21 cmH2O
   Plateau: 18 cmH2O
   Compliance: 30.8 cmH2O/mL
   SpO2: 100%
   ABG: 7.52/42/183/32/10
   Ve: 6.1 L/min
   PaO2 / FiO2: 457
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress
   Eyes / Conjunctiva: No(t) PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: No(t) Rhonchorous: ), Coarse
   breath sounds bilaterally
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   156 K/uL
   8.7 g/dL
   118 mg/dL
   0.9 mg/dL
   32 mEq/L
   2.8 mEq/L
   10 mg/dL
   91 mEq/L
   133 mEq/L
   24.6 %
   4.6 K/uL
        [image002.jpg]
                             [**2144-5-5**]  03:31 AM
                             [**2144-5-5**]  05:00 AM
                             [**2144-5-5**]  12:51 PM
                             [**2144-5-5**]  08:09 PM
                             [**2144-5-6**]  12:35 AM
                             [**2144-5-6**]  03:27 AM
   WBC
   7.6
   9.3
   4.6
   Hct
   23.4
   28.8
   24.6
   Plt
   166
   198
   156
   Cr
   0.7
   0.8
   0.9
   TCO2
   39
   34
   35
   Glucose
   396
   99
   118
   Other labs: PT / PTT / INR:16.0/30.3/1.4, ALT / AST:13/12, Alk Phos / T
   Bili:53/0.3, Differential-Neuts:64.7 %, Lymph:23.7 %, Mono:9.7 %,
   Eos:1.8 %, Albumin:2.7 g/dL, Ca++:7.6 mg/dL, Mg++:1.5 mg/dL, PO4:2.2
   mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SEIZURE, WITH STATUS EPILEPTICUS
 SEIZURE, WITH STATUS EPILEPTICUS
   75 y/o F with T Cell Lymphoma with CNS involvement with recurrent
   status epilepticus, non-convulsive, transferred to [**Hospital Unit Name 10**] for further
   management. Phenobarbital is indicated, and we have discussed with
   neurology on call, pharmacy, and anesthesia regarding elective
   intubation for phenobarbital management, airway protection. Have also
   discussed this with the son, who is okay with trial on intubation and
   phenobarb. Risks of intubation have been discussed with the family.
         Status Epilepticus: cause likely related to TCL in CNS
   - elective intubation for phenobarb. 20mg/kg IV x1, (1500mg given 75kg
   weight). BMT fellow paged to be made aware of this decision, reached
   with resident, RN, pharmacy, and intensivist overnight. - Maintenance
   dose to be 5mg/kg [**Hospital1 **] per neuro
   - Rechecked dilantin level in [**Hospital Unit Name 10**] and calculated out that her
   corrected dilantin was 15.6.  Aiming for between 16-18, will re-bolus
   her an additional 150mg in addition to her scheduled 100mg to achieve a
   higher trough. f/u level in the AM
   - Will continue Levetiracetam 1000 mg IV Q8HR
   - Neurology to continue following. Continue continuous EEG monitoring
   showing not in status as of yesterday evening.
   - Continue dexamethasone
   - Unable to add on beta-2microglobulin, LDH, protein, VZV/HSV to CSF.
   Follow Daily LFT
   - Her access is also fully utilized now for bicarb infusion, dilantin
   presently, and will need access for sedation for vent.
         Ventilatory support/intubation. Continue AC for now. ABG
   showing alkalosis likely related to metabolic alkalosis and bicarb gtt.
   - Tv turned down overnight to 400 cc with some improvement in pH from
   7.58 --> 7.52.  Goal pH closer to 7.45. Titrate down Tv today if bicarb
   to remain on (pending MTX level this am)
   - Switched sedation from Fent/Midazolam to Propofol for ease of
   SBT/extubation in AM if ok to extubate per neuro; clarify w/neuro if
   patient needs to remain intubated while on maintenance dose of
   Phenobarb
         Low Grade Fevers. She is on antibiotics given low grade
   fevers, on vanc/cefepime.  She is on acyclovir as well.
   - BMT ok with discontinuation of ABx (Vanc/Cefepime)
   -Continue Acyclovir
         T Cell Lymphoma: Dr. [**Last Name (STitle) 980**] is her neuro-oncologist.
   - Received CHOP, MTX, IT cytarabine
   - For MTX, continuing to alkalanize the urine, and following levels.
   continuing on leucovorin; will touch base with BMT re: further
   alkalinization and leucovorin.
   - Counts are dropping, will follow CBC and ANC.
         Hypertension:
   - On metoprolol currently
   - Following for now, can address hypertension with PRN hydralazine if
   needed
         Electrolyte Abnormalities
   - K, Mg repletion as needed
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2144-5-4**] 10:04 PM
   20 Gauge - [**2144-5-5**] 09:30 AM
   18 Gauge - [**2144-5-5**] 07:10 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2144-05-06 10:08:00 Physician Attending Progress Note
Chief Complaint: nonconvulsant status epilepticus
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 FEVER - 103.0
F - [**2144-5-5**] 01:00 PM--cx'd
   phenobarb started--eeg w/ resolution of status
   History obtained from ho
   Allergies:
   Amoxicillin
   Nausea/Vomiting
   Last dose of Antibiotics:
   Cefipime - [**2144-5-5**] 09:00 AM
   Acyclovir - [**2144-5-6**] 08:49 AM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Dilantin - [**2144-5-5**] 10:30 AM
   Famotidine (Pepcid) - [**2144-5-5**] 02:00 PM
   Heparin Sodium (Prophylaxis) - [**2144-5-6**] 06:19 AM
   Other medications:
   Reviewed per [**Month (only) **]
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-5-6**] 09:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (103
   Tcurrent: 38.5
C (101.3
   HR: 82 (59 - 92) bpm
   BP: 143/46(68) {77/26(37) - 175/90(99)} mmHg
   RR: 16 (14 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  4,456 mL
                                                                    849 mL
   PO:
             TF:
   IVF:
                                                                  4,336 mL
                                                                    849 mL
   Blood products:
   Total out:
                                                                  4,480 mL
                                                                  1,790 mL
   Urine:
                                                                  4,480 mL
                                                                  1,790 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -24 mL
                                                                   -941 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 24 cmH2O
   Plateau: 18 cmH2O
   Compliance: 30.8 cmH2O/mL
   SpO2: 100%
   ABG: 7.52/42/183/32/10
   Ve: 6.1 L/min
   PaO2 / FiO2: 457
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   156 K/uL
   118 mg/dL
   0.9 mg/dL
   32 mEq/L
   2.8 mEq/L
   10 mg/dL
   91 mEq/L
   133 mEq/L
   24.6 %
   4.6 K/uL
        [image002.jpg]
                             [**2144-5-5**]  03:31 AM
                             [**2144-5-5**]  05:00 AM
                             [**2144-5-5**]  12:51 PM
                             [**2144-5-5**]  08:09 PM
                             [**2144-5-6**]  12:35 AM
                             [**2144-5-6**]  03:27 AM
   WBC
   7.6
   9.3
   4.6
   Hct
   23.4
   28.8
   24.6
   Plt
   166
   198
   156
   Cr
   0.7
   0.8
   0.9
   TCO2
   39
   34
   35
   Glucose
   396
   99
   118
   Other labs: PT / PTT / INR:16.0/30.3/1.4, ALT / AST:13/12, Alk Phos / T
   Bili:53/0.3, Differential-Neuts:64.7 %, Lymph:23.7 %, Mono:9.7 %,
   Eos:1.8 %, Albumin:2.7 g/dL, Ca++:7.6 mg/dL, Mg++:1.5 mg/dL, PO4:2.2
   mg/dL
   Imaging: cxr--ngt, et ok, clear lung fields
   Microbiology: micro --bl pending
   csf viral cx pending
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SEIZURE, WITH STATUS EPILEPTICUS
   75 y.o. with T-cell lymphoma with CNS involvement, admitted initially
   with febrile neutropenia, course c/b nonconvulsant status [**Hospital 6033**]
   transferred to ICU for induction phenobarb coma, intubated for airway
   control now.
   She is no longer seizing.  She now has new fevers since discontinuing
   her  antibx regimen yesterday.
    # Status epilepticus
No longer in status per continuous eeg
   monitoring.  Continue keppra, dilantin (follow levels goal 16-18,
   adjusting for low albumin).  Continue phenobarb as per neuron dosing
   now s/p load.  Follow daily LFTs. Continuous eeg monitoring.
   #Respiratory support
for airway.  Will d/c propofol and move to
   extubate once  we clarify additional sz treatment plans from neurology
   #Fevers
sources include line, ? drug related, uti.  CSF--cx
s without
   growth to date.  Too early for VAP and no focal infiltrate cxr.  No
   diarrhea, no secretions.  Picc line potential inf source. Infection
   w/u. Would d/c picc and place new central line.
   # Lymphoma
as per bmt. Remains on acyclovir. Clarify with bmt d/c
   leucovorin/bicarb  given decreased mtx level.
   #HTN
continue Lopressor
   Remainder as per resident progress note.
   ICU Care
   Nutrition:  will hold on TFs for extubation
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2144-5-4**] 10:04 PM will d/c picc and place central line.
   20 Gauge - [**2144-5-5**] 09:30 AM
   18 Gauge - [**2144-5-5**] 07:10 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:  h2b
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
clarify
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   Procedure Note:
   RIJ placement for access.
   The  area prepped and draped in sterile fashion.  IJ visualized by
   ultrasound and cannulated easily.  Wire threaded and catheter inserted
   by seldinger technique.  Pt tolerated well without immediate
   complications.  CXR with no PTX, line low needs to be pulled back 3 cm.
   I was present throughout the procedure.
   ------ Protected Section Addendum Entered By:[**Name (NI) 209**] [**Last Name (NamePattern1) 210**], MD
   on:[**2144-5-6**] 08:48 PM ------

2144-05-07 06:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2144-5-6**] 06:40 PM
 MULTI LUMEN - START [**2144-5-6**] 06:56 PM
 FEVER - 101.3
F - [**2144-5-6**] 07:00 AM
   - Phenytoin changed to fosphenytoin
   - Phenobarb continues
   - CVL placed; needed to be pulled 3 cm
   - Code status clarified: DNR/DNI (intubated only for phenobarb load)
   - Tube feed recs if not extubating
   - Per BMT, continue leucovorin, stop bicarb
   - IV team needs to pull PICC
   - Failed SBT secondary to apnea
   Allergies:
   Amoxicillin
   Nausea/Vomiting
   Last dose of Antibiotics:
   Cefipime - [**2144-5-5**] 09:00 AM
   Acyclovir - [**2144-5-7**] 12:08 AM
   Infusions:
   Fosphenytoin - 50 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2144-5-6**] 03:00 PM
   Dilantin - [**2144-5-7**] 03:56 AM
   Heparin Sodium (Prophylaxis) - [**2144-5-7**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-5-7**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 35.6
C (96
   HR: 77 (52 - 87) bpm
   BP: 160/77(96) {111/46(66) - 167/79(99)} mmHg
   RR: 12 (12 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  1,835 mL
                                                                    519 mL
   PO:
             TF:
   IVF:
                                                                  1,835 mL
                                                                    519 mL
   Blood products:
   Total out:
                                                                  2,890 mL
                                                                  1,280 mL
   Urine:
                                                                  2,890 mL
                                                                  1,280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,055 mL
                                                                   -761 mL
   Respiratory support
   O2 Delivery Device: Trach mask , Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 21 cmH2O
   Plateau: 17 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 100%
   ABG: ///29/
   Ve: 5.1 L/min
   Physical Examination
   General Appearance: Well nourished,  No acute distress
   Eyes / Conjunctiva:  PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Peripheral Vascular: 2+ b/l radial pulses, 1+ bilateral DP/PT pulses
   Respiratory / Chest: (Breath Sounds: No(t) Rhonchorous: ), Coarse
   breath sounds bilaterally
   Neurologic: withdrew to pain in all 4 exts at 7am, but not during rpt
   exam at 11am. Pupis reacitve bilaterally
   Labs / Radiology
   143 K/uL
   8.8 g/dL
   78 mg/dL
   0.8 mg/dL
   29 mEq/L
   4.0 mEq/L
   14 mg/dL
   100 mEq/L
   138 mEq/L
   25.4 %
   5.1 K/uL
        [image002.jpg]
                             [**2144-5-5**]  03:31 AM
                             [**2144-5-5**]  05:00 AM
                             [**2144-5-5**]  12:51 PM
                             [**2144-5-5**]  08:09 PM
                             [**2144-5-6**]  12:35 AM
                             [**2144-5-6**]  03:27 AM
                             [**2144-5-6**]  05:24 PM
                             [**2144-5-7**]  03:47 AM
   WBC
   7.6
   9.3
   4.6
   5.1
   Hct
   23.4
   28.8
   24.6
   25.4
   Plt
   166
   198
   156
   143
   Cr
   0.7
   0.8
   0.9
   0.9
   0.8
   TCO2
   39
   34
   35
   Glucose
   396
   99
   118
   106
   78
   Other labs: PT / PTT / INR:14.0/42.4/1.2, ALT / AST:[**8-28**], Alk Phos / T
   Bili:57/0.3, Differential-Neuts:64.7 %, Lymph:23.7 %, Mono:9.7 %,
   Eos:1.8 %, Albumin:2.7 g/dL, LDH:258 IU/L, Ca++:8.4 mg/dL, Mg++:3.8
   mg/dL, PO4:4.3 mg/dL
   Microbiology: [**2144-5-6**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   [**2144-5-6**]  URINE URINE CULTURE-PENDING
   [**2144-5-3**]  CSF; VIRAL CULTURE-PENDING
   [**2144-5-2**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   [**2144-5-2**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SEIZURE, WITH STATUS EPILEPTICUS
   75 y/o F with T Cell Lymphoma with CNS involvement with recurrent
   status epilepticus, non-convulsive, transferred to [**Hospital Unit Name 10**] for further
   management. Phenobarbital is indicated, and we have discussed with
   neurology on call, pharmacy, and anesthesia regarding elective
   intubation for phenobarbital management, airway protection.
   Status Epilepticus: cause likely related to TCL in CNS. Elective
   intubation for phenobarb initiation.  Loading complete and currently on
   maintenance dose of 5mg/kg [**Hospital1 **] per neuro.  Seizure activity suppressed
   after load with one transient repeat episode lasting 15 min on
   afternoon of [**5-6**].  Failure to wake not likely related to status
   epilepticus, more likely related to sedating meds.
   - continue phenobarbital and check f/u level this am
   - per neurology, satisfied with current dilantin levels, will continue
   to follow daily levels
   - Will continue Levetiracetam 1000 mg IV Q8HR
   - Neurology to continue following. Continue continuous EEG monitoring
   showing not in status as of yesterday evening.
   - F/u CSF viral culture
   # Sedation/ Unresponsiveness: Pt has been off propofol for 12 hours and
   currently only withdrawing to pain. Unclear etiology; we will need
   input from neurology regarding whether this is expected with initiation
   of phenobarbital and what measures/ diagnositics should be pursued.
   Specifically, will d/w neourology re: need for imaging, effect of
   phenobarbital and subsequent dosing.
   - check phenobarbital level and d/w neuro re: dosing
  Ventilatory support. Intubated electively for phenobarb initiation
   without underlying acitve pulm issues.  Continued AC for now as pt
   tolerating well off propofol for 12 hours.  Previous metabolic
   alkalosis attributed to bicarb gtt which has been discontinued. Off all
   sedation currently.  Ability to wean limited by apnea and dependent on
   issues discussed above.
   - repeat abg and adjust vent settings accordingly.
   Fevers. Admitted to [**Hospital Unit Name 10**] on VANCO/CEFEPIME for febrile neutropenia
   on admission; both were discontinued shortly after arrival to [**Hospital Unit Name 10**].
   Now afebrile since morning of [**5-6**]. Time course does not fit with VAP
   but could be related to multiple lines. Of note, pt did initially p/w
   fevers prior to lymphoma diagnosis (B symptoms)
   -Continue Acyclovir and f/u CSF viral cultures
   - hold off on Abx unless we identify source or decompensates in which
   case we would resume previous broad covg
   - f/u BCX and UCX
   - d/c PICC line and culture tip
  T Cell Lymphoma: Dr. [**Last Name (STitle) 980**] is her neuro-oncologist.
   - Received CHOP, MTX, IT cytarabine; continuing dexamethasone
   - Counts are dropping, will follow CBC and ANC.
   - Per BMT, alkalinzation no longer necessary, leukovorin to be
   continued as small left pleural effusion can act as depot
   - D/W BMT re; need for PCP [**Name Initial (PRE) **].
   Hypertension:
   - On metoprolol currently, adequately  controlled
   - Following for now, can address hypertension with PRN hydralazine if
   needed
   # Hct drop: recheck in PM. [**Month (only) 11**] be product of decreased cell counts from
   lymphoma Tx as WBC dropping as well
   - Transfuse for Hct< 21
   # Thrombocytopneia: Need to mnitor as 50% decline over one week. No
   need to d/c heparin at this point. [**Month (only) 11**] also be realated to famotidine
   and MTX.
   - continue to follow
   - d/w BMT
  Electrolyte Abnormalities
   - K, Mg repletion as needed
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2144-5-4**] 10:04 PM
   18 Gauge - [**2144-5-5**] 04:00 PM
   Multi Lumen - [**2144-5-6**] 06:56 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI except in setting of phenobarbital initiation
   Disposition: ICU

2144-05-07 10:08:00 Physician Attending Progress Note
Chief Complaint: status epliepticus
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   75 y.o. with T-cell lymphoma with CNS involvement, admitted initially
   with febrile neutropenia, course c/b nonconvulsant status [**Hospital 6033**]
   transferred to ICU for induction phenobarb coma, intubated for airway
   control now.
   24 Hour Events:
 MULTI LUMEN - START [**2144-5-6**] 06:40 PM
 MULTI LUMEN - START [**2144-5-6**] 06:56 PM
 FEVER - 101.3
F - [**2144-5-6**] 07:00 AM
   Failed sbt
apneic--remains off proprofol without spont breathing on
   vent
   Allergies:
   Amoxicillin
   Nausea/Vomiting
   Last dose of Antibiotics:
   Cefipime - [**2144-5-5**] 09:00 AM
   Acyclovir - [**2144-5-7**] 07:59 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2144-5-6**] 03:00 PM
   Dilantin - [**2144-5-7**] 03:56 AM
   Heparin Sodium (Prophylaxis) - [**2144-5-7**] 06:00 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-5-7**] 09:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 35.9
C (96.7
   HR: 58 (52 - 79) bpm
   BP: 152/62(82) {111/52(66) - 167/79(99)} mmHg
   RR: 12 (12 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  1,835 mL
                                                                    635 mL
   PO:
             TF:
   IVF:
                                                                  1,835 mL
                                                                    635 mL
   Blood products:
   Total out:
                                                                  2,890 mL
                                                                  1,680 mL
   Urine:
                                                                  2,890 mL
                                                                  1,680 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,055 mL
                                                                 -1,045 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 21 cmH2O
   Plateau: 16 cmH2O
   Compliance: 36.4 cmH2O/mL
   SpO2: 100%
   ABG: ///29/
   Ve: 5.1 L/min
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Extremities: Right: Trace, Left: Trace
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, Movement:minimal, nonpurposeful, Tone: decreased
   Labs / Radiology
   8.8 g/dL
   143 K/uL
   78 mg/dL
   0.8 mg/dL
   29 mEq/L
   4.0 mEq/L
   14 mg/dL
   100 mEq/L
   138 mEq/L
   25.4 %
   5.1 K/uL
        [image002.jpg]
                             [**2144-5-5**]  03:31 AM
                             [**2144-5-5**]  05:00 AM
                             [**2144-5-5**]  12:51 PM
                             [**2144-5-5**]  08:09 PM
                             [**2144-5-6**]  12:35 AM
                             [**2144-5-6**]  03:27 AM
                             [**2144-5-6**]  05:24 PM
                             [**2144-5-7**]  03:47 AM
   WBC
   7.6
   9.3
   4.6
   5.1
   Hct
   23.4
   28.8
   24.6
   25.4
   Plt
   166
   198
   156
   143
   Cr
   0.7
   0.8
   0.9
   0.9
   0.8
   TCO2
   39
   34
   35
   Glucose
   396
   99
   118
   106
   78
   Other labs: PT / PTT / INR:14.0/42.4/1.2, ALT / AST:[**8-28**], Alk Phos / T
   Bili:57/0.3, Differential-Neuts:64.7 %, Lymph:23.7 %, Mono:9.7 %,
   Eos:1.8 %, Albumin:2.7 g/dL, LDH:258 IU/L, Ca++:8.4 mg/dL, Mg++:3.8
   mg/dL, PO4:4.3 mg/dL
   Imaging: cxr--rij ok, et ok, LLL atelectasxis vs sm effusion, stable
   Microbiology: bl/urine [**5-6**]--ngtd, csf neg, viral cx pending
   bl [**5-2**] ngtd
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SEIZURE, WITH STATUS EPILEPTICUS
   75 y.o. with T-cell lymphoma with CNS involvement, admitted initially
   with febrile neutropenia, course c/b nonconvulsant status [**Hospital 6033**]
   transferred to ICU for induction of phenobarb coma, intubated for
   airway control. She is no longer seizing but is without spontaneous
   breathing off propofol, likely from ongoing effects of phenobarbital.
   She has new fevers, off antibx, with fever w/u pending and line changed
   yesterday.
    # Status epilepticus
Continue keppra, dilantin (follow levels goal
   16-18, adjusting for low albumin). Follow phenobarb level and discuss
   changes to phenobarb dosing with neurology team. Remains on continuous
   eeg monitoring.  Follow daily LFTs.  Would reimage brain if she does
   not wake up in the next few days (pending phenobarb level).
   #Respiratory support
for airway protection insetting of phenobarb
   load.  Apneic/with no overbreathing off propofol, likely from
   phenobarb. Continue vent support
follow abg and adjust accordingly.
    #Fevers
infection work up underway, though no clear source.  Placed
   new IJ
pull picc line.  F/u cxs. ? lymphoma related.
   # Lymphoma
as per bmt. Remains on acyclovir. Continue leucovorin
   pending resolution of mtx level.
   #mild thrombocytopenia
continue to monitor
   #HTN
continue Lopressor
   Remainder as per resident progress note.
   ICU Care
   Nutrition:
   Comments: initiate TFs
   Glycemic Control:
   Lines:
   PICC Line - [**2144-5-4**] 10:04 PM
   18 Gauge - [**2144-5-5**] 04:00 PM
   Multi Lumen - [**2144-5-6**] 06:40 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ADDENDUM
   I met with the [**Known lastname 6025**] family, along with the neurology and BMT teams.
   The family was updated to the patient
s current status.  The family had
   many questions regarding prognosis and quality of life which were
   answered by all teams.  We continue to wait for the effects of
   phenobarb to wear off, hopeful that we will then be able to extubate
   Mrs. [**Known lastname 6025**].  We will continue to monitor and uodate family as to any
   new change in condition.
   Additional critical care time spent in family meeting:  35 mintues

2144-05-08 06:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - STOP [**2144-5-7**] 11:56 AM
   - held evening dose of phenobarb per neuro and rechecking level
   - gave extra dose dilantin
   - no improvement in mental status overnight
   Allergies:
   Amoxicillin
   Nausea/Vomiting
   Last dose of Antibiotics:
   Cefipime - [**2144-5-5**] 09:00 AM
   Acyclovir - [**2144-5-8**] 12:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2144-5-7**] 02:04 PM
   Heparin Sodium (Prophylaxis) - [**2144-5-8**] 05:42 AM
   Fosphenytoin - [**2144-5-8**] 05:42 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-5-8**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.3
C (97.3
   HR: 85 (55 - 86) bpm
   BP: 169/75(100) {120/53(70) - 169/80(101)} mmHg
   RR: 14 (10 - 17) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  1,453 mL
                                                                    579 mL
   PO:
             TF:
                                                                    499 mL
                                                                    265 mL
   IVF:
                                                                    894 mL
                                                                    313 mL
   Blood products:
   Total out:
                                                                  2,600 mL
                                                                    770 mL
   Urine:
                                                                  2,600 mL
                                                                    770 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,147 mL
                                                                   -192 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 10
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 78
   PIP: 19 cmH2O
   Plateau: 14 cmH2O
   SpO2: 100%
   ABG: 7.46/43/186/25/6
   Ve: 4.9 L/min
   PaO2 / FiO2: 465
   Physical Examination
   General Appearance: Well nourished,  No acute distress
   Eyes / Conjunctiva:  PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Peripheral Vascular: 2+ b/l radial pulses, 1+ bilateral DP/PT pulses
   Respiratory / Chest: (Breath Sounds: No(t) Rhonchorous: ), Coarse
   breath sounds bilaterally
   Neurologic: not withdrawing to pain. Pupis reacitve bilaterally
   Labs / Radiology
   159 K/uL
   9.5 g/dL
   120 mg/dL
   0.8 mg/dL
   25 mEq/L
   3.7 mEq/L
   15 mg/dL
   97 mEq/L
   132 mEq/L
   27.4 %
   5.5 K/uL
        [image002.jpg]
                             [**2144-5-5**]  05:00 AM
                             [**2144-5-5**]  12:51 PM
                             [**2144-5-5**]  08:09 PM
                             [**2144-5-6**]  12:35 AM
                             [**2144-5-6**]  03:27 AM
                             [**2144-5-6**]  05:24 PM
                             [**2144-5-7**]  03:47 AM
                             [**2144-5-7**]  02:58 PM
                             [**2144-5-7**]  08:11 PM
                             [**2144-5-8**]  04:13 AM
   WBC
   9.3
   4.6
   5.1
   6.9
   5.5
   Hct
   28.8
   24.6
   25.4
   27.7
   27.4
   Plt
   198
   156
   143
   166
   159
   Cr
   0.8
   0.9
   0.9
   0.8
   0.8
   0.8
   TCO2
   39
   34
   35
   32
   Glucose
   99
   118
   106
   78
   139
   120
   Other labs: PT / PTT / INR:14.1/35.1/1.2, ALT / AST:[**8-28**], Alk Phos / T
   Bili:57/0.3, Differential-Neuts:66.8 %, Lymph:17.3 %, Mono:6.3 %,
   Eos:9.3 %, Lactic Acid:0.7 mmol/L, Albumin:2.7 g/dL, LDH:258 IU/L,
   Ca++:8.0 mg/dL, Mg++:1.8 mg/dL, PO4:3.0 mg/dL
   Imaging: CXR: 3.5 cm
   Microbiology: [**2144-5-6**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   [**2144-5-6**]  URINE URINE CULTURE-FINAL {GRAM POSITIVE COCCUS(COCCI)}
   coag???
   [**2144-5-3**]  CSF;SPINAL FLUID GRAM STAIN-FINAL; FLUID
   CULTURE-PRELIMINARY; VIRAL CULTURE-PRELIMINARY no virus so far
   [**2144-5-2**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   [**2144-5-2**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   [**2144-5-2**]  URINE URINE CULTURE-FINAL
   [**2144-5-1**]  URINE URINE CULTURE-FINAL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SEIZURE, WITH STATUS EPILEPTICUS
   75 y/o F with T Cell Lymphoma with CNS involvement with non-convulsive
   recurrent status [**Hospital 6033**] transferred to [**Hospital Unit Name 10**] for elective
   intubation for initiation of phenobarbital. Pt has failed continues to
   be somnolent off propofol, but is still seizing through current levels
   of dilantin, phenobarb, and keppra.
   Status Epilepticus: cause likely related to TCL in CNS. Elective
   intubation for phenobarb initiation.  Loading complete and currently on
   maintenance dose of 5mg/kg [**Hospital1 **] per neuro.  Seizure activity initially
   suppressed after load with one transient repeat episode lasting 15 min
   on afternoon of [**5-6**], but then had several episodes on afternoon of
   [**5-7**].  Failure to wake not likely related to status epilepticus, more
   likely related to sedating meds.
   - holding phenobarbital and check f/u level this am
   - increase dose to 130 tid with addtnl one time 300mg dose, will
   continue to follow daily levels of dilantin and free dilantin
   - Will continue Levetiracetam 1000 mg IV Q8HR
   - Neurology to continue following. Continue continuous EEG monitoring
   - F/u CSF viral culture
   # Sedation/ Unresponsiveness: Pt has been off propofol for 12 hours and
   only intermittently withdrawing to pain. As per neurology, not expected
   with initiation of phenobarbital. No indication for repeat imaging or
   testing otherwise, will continue to monitor for improvement pending
   dose adjustments as above.  [**Month (only) 11**] be hard to strike balance that would
   avoid sedation yet effectively suppress seizures.
   - check phenobarbital level as above and d/w neuro re: dosing
  Ventilatory support. Intubated electively for phenobarb initiation
   without underlying acitve pulm issues.  Continued AC for now as pt
   tolerating well off propofol for 12 hours.  Previous metabolic
   alkalosis attributed to bicarb gtt which has been discontinued. Off all
   sedation currently.  Ability to wean limited by apnea and dependent on
   issues discussed above.
   - repeat abg, attempt pressure support
   Fevers. Admitted to [**Hospital Unit Name 10**] on VANCO/CEFEPIME for febrile neutropenia
   on initial admission; both were discontinued shortly after arrival to
   [**Hospital Unit Name 10**].  Pt spiked on [**5-6**] to 103.0. Time course does not fit with VAP
   but could be related to multiple lines. Of note, pt did initially p/w
   fevers prior to lymphoma diagnosis (B symptoms)
   -Continue Acyclovir and f/u CSF viral cultures
   - hold off on Abx unless we identify source or decompensates in which
   case we would resume previous broad covg
   - f/u BCX and UCX
  T Cell Lymphoma: Dr. [**Last Name (STitle) 980**] is her neuro-oncologist.
   - Received CHOP, MTX, IT cytarabine; continuing dexamethasone,
   initiating PCP [**Name9 (PRE) 1694**]
   [**Name Initial (PRE) **] [**Name9 (PRE) 6129**] are labile, will follow CBC and ANC.
   - Per BMT, alkalinzation no longer necessary, leukovorin to be
   continued as small left pleural effusion can act as depot
   # Gram + cocci in UCx: Per report c/w staph. UA done at same time was
   clean. Likely represents contaminant (epi) vs colonizer
   (saprophyticus). Will repeat UA/UCX and ask for further speciation.
   Hypertension:
   - On metoprolol currently, adequately  controlled
   - Following for now,  PRN hydralazine as needed
   # Hct drop: recheck in PM. [**Month (only) 11**] be product of decreased cell counts from
   lymphoma Tx as WBC dropping as well
   - Transfuse for Hct< 21
   # Thrombocytopneia: Need to mnitor as 50% decline over one week. No
   need to d/c heparin at this point. [**Month (only) 11**] also be realated to famotidine
   and MTX. Now trending up slightly
   - continue to follow
   - per BMT pattern does not fit with HIT
  Electrolyte Abnormalities
   - K, Mg repletion as needed
   ICU Care
   Nutrition: tube feeds started
   Nutren Pulmonary (Full) - [**2144-5-8**] 05:27 AM 40 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2144-5-5**] 04:00 PM
   Multi Lumen - [**2144-5-6**] 06:40 PM
   Prophylaxis:
   DVT:  SQH
   Stress ulcer: H2B
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR(intubation ok for phenobarb inititiation)
   Disposition: icu

2144-05-08 11:32:00 Physician Attending Progress Note
Chief Complaint: status epilepticus
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - STOP [**2144-5-7**] 11:56 AM
   Minimal change in level of consciousness
but is now overbreathing vent
   break through sz noted on eeg
   History obtained from ho
   Allergies:
   Amoxicillin
   Nausea/Vomiting
   Last dose of Antibiotics:
   Acyclovir - [**2144-5-8**] 08:27 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2144-5-7**] 02:04 PM
   Heparin Sodium (Prophylaxis) - [**2144-5-8**] 05:42 AM
   Fosphenytoin - [**2144-5-8**] 05:42 AM
   Other medications:
   reviewed [**Month (only) **]
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-5-8**] 11:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.1
C (96.9
   HR: 83 (55 - 86) bpm
   BP: 167/72(94) {115/50(66) - 169/83(104)} mmHg
   RR: 17 (10 - 17) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  1,453 mL
                                                                  1,181 mL
   PO:
             TF:
                                                                    499 mL
                                                                    446 mL
   IVF:
                                                                    894 mL
                                                                    735 mL
   Blood products:
   Total out:
                                                                  2,600 mL
                                                                  1,170 mL
   Urine:
                                                                  2,600 mL
                                                                  1,170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,147 mL
                                                                     11 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 10
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 78
   PIP: 19 cmH2O
   Plateau: 15 cmH2O
   SpO2: 99%
   ABG: 7.46/43/186/25/6
   Ve: 5.5 L/min
   PaO2 / FiO2: 465
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube, perrla
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : , Crackles : at bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to:noxious stimuli, Movement: No(t) Sedated, Tone: Normal, +corneal
   reflexes
   Labs / Radiology
   9.5 g/dL
   159 K/uL
   120 mg/dL
   0.8 mg/dL
   25 mEq/L
   3.7 mEq/L
   15 mg/dL
   97 mEq/L
   132 mEq/L
   27.4 %
   5.5 K/uL
        [image002.jpg]
                             [**2144-5-5**]  05:00 AM
                             [**2144-5-5**]  12:51 PM
                             [**2144-5-5**]  08:09 PM
                             [**2144-5-6**]  12:35 AM
                             [**2144-5-6**]  03:27 AM
                             [**2144-5-6**]  05:24 PM
                             [**2144-5-7**]  03:47 AM
                             [**2144-5-7**]  02:58 PM
                             [**2144-5-7**]  08:11 PM
                             [**2144-5-8**]  04:13 AM
   WBC
   9.3
   4.6
   5.1
   6.9
   5.5
   Hct
   28.8
   24.6
   25.4
   27.7
   27.4
   Plt
   198
   156
   143
   166
   159
   Cr
   0.8
   0.9
   0.9
   0.8
   0.8
   0.8
   TCO2
   39
   34
   35
   32
   Glucose
   99
   118
   106
   78
   139
   120
   Other labs: PT / PTT / INR:14.1/35.1/1.2, ALT / AST:[**8-28**], Alk Phos / T
   Bili:57/0.3, Differential-Neuts:66.8 %, Lymph:17.3 %, Mono:6.3 %,
   Eos:9.3 %, Lactic Acid:0.7 mmol/L, Albumin:2.7 g/dL, LDH:258 IU/L,
   Ca++:8.0 mg/dL, Mg++:1.8 mg/dL, PO4:3.0 mg/dL
   Fluid analysis / Other labs: dil 9.4
   phenobarb 35.3
   Imaging: cxr--l atelectasis, sm effusion stable, NG et r ij in position
   Microbiology: [**5-6**] urine--gpc c/w staph [**Last Name (un) 206**] pending
   viral cx-ngtd
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SEIZURE, WITH STATUS EPILEPTICUS
   75 y.o. with T-cell lymphoma with CNS involvement, admitted initially
   with febrile neutropenia, course c/b nonconvulsant status [**Hospital 6033**]
   transferred to ICU for induction of phenobarb coma, intubated for
   airway control. She has had breakthrough sz on eeg.  She is now
   overbreathing on vent but remains minimally responsive off propofol,
   likely from ongoing effects of phenobarbital as well as possible
   post-ictal component.
    # Status epilepticus
Neuro input regarding change to current
   antiepileptic regimen given recurrent sz on eeg.  Remains on keppra and
   dilantin (follow levels goal 16-18, adjusting for low albumin). Follow
   phenobarb level.
   # Respiratory support
for airway protection in setting of phenobarb
   load.  She is now intermittently overbreathing vent. Ability to
   extubate further depends upon additional recommends from neurology in
   regards to her meds/phenobarb given recurrent sz.
   # Fevers--have resolved. No leukocytosis. Will repeat u/a and cx.
   # Lymphoma
as per bmt. Remains on acyclovir. Continue leucovorin
   pending resolution of mtx level.  Discuss with bmt need for pcp
   [**Name Initial (PRE) 3261**].
   # Mild thrombocytopenia
stable, likely mtx related, continue to monitor
   # HTN
continue Lopressor, prn hydral
   Remainder as per resident progress note.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2144-5-8**] 05:27 AM 40 mL/hour
   Comments: Tfs
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2144-5-5**] 04:00 PM
   Multi Lumen - [**2144-5-6**] 06:40 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2144-05-09 07:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**5-8**]
   - continuing to hold phenobarb and adjusting dilantin/keppra dosing
   - had several seizures on afternoon of [**5-7**]
   - started on PCP [**Name9 (PRE) **]
   Allergies:
   Amoxicillin
   Nausea/Vomiting
   Last dose of Antibiotics:
   Acyclovir - [**2144-5-9**] 12:10 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2144-5-9**] 06:00 AM
   Fosphenytoin - [**2144-5-9**] 06:58 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-5-9**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 80 (65 - 90) bpm
   BP: 144/64(83) {105/49(63) - 182/83(104)} mmHg
   RR: 12 (10 - 18) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  2,240 mL
                                                                    711 mL
   PO:
             TF:
                                                                    970 mL
                                                                    292 mL
   IVF:
                                                                  1,270 mL
                                                                    419 mL
   Blood products:
   Total out:
                                                                  3,090 mL
                                                                    820 mL
   Urine:
                                                                  3,090 mL
                                                                    820 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -850 mL
                                                                   -109 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 320 (320 - 320) mL
   PS : 15 cmH2O
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 80
   PIP: 23 cmH2O
   Plateau: 18 cmH2O
   SpO2: 98%
   ABG: ///28/
   Ve: 8.2 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric)
   Abdominal: Soft, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   140 K/uL
   9.0 g/dL
   114 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.9 mEq/L
   16 mg/dL
   97 mEq/L
   133 mEq/L
   24.7 %
   4.1 K/uL
        [image002.jpg]
                             [**2144-5-5**]  12:51 PM
                             [**2144-5-5**]  08:09 PM
                             [**2144-5-6**]  12:35 AM
                             [**2144-5-6**]  03:27 AM
                             [**2144-5-6**]  05:24 PM
                             [**2144-5-7**]  03:47 AM
                             [**2144-5-7**]  02:58 PM
                             [**2144-5-7**]  08:11 PM
                             [**2144-5-8**]  04:13 AM
                             [**2144-5-9**]  04:06 AM
   WBC
   4.6
   5.1
   6.9
   5.5
   4.1
   Hct
   24.6
   25.4
   27.7
   27.4
   24.7
   Plt
   156
   143
   166
   159
   140
   Cr
   0.9
   0.9
   0.8
   0.8
   0.8
   0.8
   TCO2
   39
   34
   35
   32
   Glucose
   118
   106
   78
   139
   120
   114
   Other labs: PT / PTT / INR:13.0/26.5/1.1, ALT / AST:[**9-28**], Alk Phos / T
   Bili:71/0.1, Differential-Neuts:66.8 %, Lymph:17.3 %, Mono:6.3 %,
   Eos:9.3 %, Lactic Acid:0.7 mmol/L, Albumin:2.9 g/dL, LDH:225 IU/L,
   Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Imaging: CXR
   Microbiology: ucx [**5-8**] Pending
   UA [**5-8**] CLEAN
   [**2144-5-6**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   [**2144-5-6**]  URINE URINE CULTURE-FINAL {GRAM POSITIVE COCCUS(COCCI)}
   coag???
   [**2144-5-3**]  CSF;SPINAL FLUID GRAM STAIN-FINAL; FLUID
   CULTURE-PRELIMINARY; VIRAL CULTURE-PRELIMINARY no virus so far
   [**2144-5-2**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   [**2144-5-2**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   [**2144-5-2**]  URINE URINE CULTURE-FINAL
   [**2144-5-1**]  URINE URINE CULTURE-FINAL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SEIZURE, WITH STATUS EPILEPTICUS
   75 y/o F with T Cell Lymphoma with CNS involvement with non-convulsive
   recurrent status [**Hospital 6033**] transferred to [**Hospital Unit Name 10**] for elective
   intubation for initiation of phenobarbital. Pt has failed continues to
   be somnolent off propofol, but is still seizing through current levels
   of dilantin, phenobarb, and keppra.
   Status Epilepticus: cause likely related to TCL in CNS. Elective
   intubation for phenobarb initiation.  Loading complete and currently on
   maintenance dose of 5mg/kg [**Hospital1 **] per neuro.  Seizure activity initially
   suppressed after load with one transient repeat episode lasting 15 min
   on afternoon of [**5-6**], but then had several episodes on afternoon of
   [**5-7**].  Failure to wake not likely related to status epilepticus, more
   likely related to sedating meds.
   - holding phenobarbital and check f/u level this am
   - increase dose to 130 tid with addtnl one time 300mg dose, will
   continue to follow daily levels of dilantin and free dilantin
   - Will continue Levetiracetam 1000 mg IV Q8HR
   - Neurology to continue following. Continue continuous EEG monitoring
   - F/u CSF viral culture
   # Sedation/ Unresponsiveness: Pt has been off propofol for 12 hours and
   only intermittently withdrawing to pain. As per neurology, not expected
   with initiation of phenobarbital. No indication for repeat imaging or
   testing otherwise, will continue to monitor for improvement pending
   dose adjustments as above.  [**Month (only) 11**] be hard to strike balance that would
   avoid sedation yet effectively suppress seizures.
   - check phenobarbital level as above and d/w neuro re: dosing
  Ventilatory support. Intubated electively for phenobarb initiation
   without underlying acitve pulm issues.  Continued AC for now as pt
   tolerating well off propofol for 12 hours.  Previous metabolic
   alkalosis attributed to bicarb gtt which has been discontinued. Off all
   sedation currently.  Ability to wean limited by apnea and dependent on
   issues discussed above.
   - repeat abg, attempt pressure support
   Fevers. Admitted to [**Hospital Unit Name 10**] on VANCO/CEFEPIME for febrile neutropenia
   on initial admission; both were discontinued shortly after arrival to
   [**Hospital Unit Name 10**].  Pt spiked on [**5-6**] to 103.0. Time course does not fit with VAP
   but could be related to multiple lines. Of note, pt did initially p/w
   fevers prior to lymphoma diagnosis (B symptoms)
   -Continue Acyclovir and f/u CSF viral cultures
   - hold off on Abx unless we identify source or decompensates in which
   case we would resume previous broad covg
   - f/u BCX and UCX
  T Cell Lymphoma: Dr. [**Last Name (STitle) 980**] is her neuro-oncologist.
   - Received CHOP, MTX, IT cytarabine; continuing dexamethasone,
   initiating PCP [**Name9 (PRE) 1694**]
   [**Name Initial (PRE) **] [**Name9 (PRE) 6129**] are labile, will follow CBC and ANC.
   - Per BMT, alkalinzation no longer necessary, leukovorin to be
   continued as small left pleural effusion can act as depot
   # Gram + cocci in UCx: Per report c/w staph. UA done at same time was
   clean. Likely represents contaminant (epi) vs colonizer
   (saprophyticus). Will repeat UA/UCX and ask for further speciation.
   Hypertension:
   - On metoprolol currently, adequately  controlled
   - Following for now,  PRN hydralazine as needed
   # Hct drop: recheck in PM. [**Month (only) 11**] be product of decreased cell counts from
   lymphoma Tx as WBC dropping as well
   - Transfuse for Hct< 21
   # Thrombocytopneia: Need to mnitor as 50% decline over one week. No
   need to d/c heparin at this point. [**Month (only) 11**] also be realated to famotidine
   and MTX. Now trending up slightly
   - continue to follow
   - per BMT pattern does not fit with HIT
  Electrolyte Abnormalities
   - K, Mg repletion as needed
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2144-5-9**] 05:10 AM 40 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2144-5-5**] 04:00 PM
   Multi Lumen - [**2144-5-6**] 06:40 PM
   Prophylaxis:
   DVT:SQH
   Stress ulcer:H2B
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR
   Disposition: ICU

2144-05-09 11:16:00 Physician Attending Progress Note
Chief Complaint: STATUS EPILEPTICUS
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   remains minimally responsive off propofol
   hypoventilated on ps trial but continue to overbreath on ACV
   History obtained from Medical records, ho
   Allergies:
   Amoxicillin
   Nausea/Vomiting
   Last dose of Antibiotics:
   Acyclovir - [**2144-5-9**] 07:50 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2144-5-9**] 06:00 AM
   Fosphenytoin - [**2144-5-9**] 06:58 AM
   Other medications:
   Reviewed (per [**Month (only) **])
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-5-9**] 11:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.5
   HR: 72 (71 - 90) bpm
   BP: 129/70(85) {105/49(63) - 182/80(102)} mmHg
   RR: 12 (10 - 18) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  2,240 mL
                                                                  1,220 mL
   PO:
             TF:
                                                                    970 mL
                                                                    441 mL
   IVF:
                                                                  1,270 mL
                                                                    779 mL
   Blood products:
   Total out:
                                                                  3,090 mL
                                                                  1,030 mL
   Urine:
                                                                  3,090 mL
                                                                  1,030 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -850 mL
                                                                    190 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 320 (320 - 320) mL
   PS : 15 cmH2O
   RR (Set): 10
   RR (Spontaneous): 5
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 80
   PIP: 25 cmH2O
   Plateau: 16 cmH2O
   SpO2: 98%
   ABG: ///28/
   Ve: 6.6 L/min
   Physical Examination
   Intubated, minimally responsive with spontaneous movement but not
   following commands, PERRLA,
   CTA,
    RR,
   + BS, soft
   Trace edema, warm extremeties
   Labs / Radiology
   9.0 g/dL
   140 K/uL
   114 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.9 mEq/L
   16 mg/dL
   97 mEq/L
   133 mEq/L
   24.7 %
   4.1 K/uL
        [image002.jpg]
                             [**2144-5-5**]  12:51 PM
                             [**2144-5-5**]  08:09 PM
                             [**2144-5-6**]  12:35 AM
                             [**2144-5-6**]  03:27 AM
                             [**2144-5-6**]  05:24 PM
                             [**2144-5-7**]  03:47 AM
                             [**2144-5-7**]  02:58 PM
                             [**2144-5-7**]  08:11 PM
                             [**2144-5-8**]  04:13 AM
                             [**2144-5-9**]  04:06 AM
   WBC
   4.6
   5.1
   6.9
   5.5
   4.1
   Hct
   24.6
   25.4
   27.7
   27.4
   24.7
   Plt
   156
   143
   166
   159
   140
   Cr
   0.9
   0.9
   0.8
   0.8
   0.8
   0.8
   TCO2
   39
   34
   35
   32
   Glucose
   118
   106
   78
   139
   120
   114
   Other labs: PT / PTT / INR:13.0/26.5/1.1, ALT / AST:[**9-28**], Alk Phos / T
   Bili:71/0.1, Differential-Neuts:66.8 %, Lymph:17.3 %, Mono:6.3 %,
   Eos:9.3 %, Lactic Acid:0.7 mmol/L, Albumin:2.9 g/dL, LDH:225 IU/L,
   Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Fluid analysis / Other labs: mtx--0.01
   phenobarb 30.3
   dil 11.9
   lfts nl
   Imaging: CXR--et rij ok, small eff R with min blunting of cpa, LLL
   atelectasis
   Microbiology: urine cx--small amt staph
   repeat u/a--clean, cx neg
   bl pending [**5-2**]--ngtd
   viral ngtd
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SEIZURE, WITH STATUS EPILEPTICUS
   75 y.o. with T-cell lymphoma with CNS involvement, admitted initially
   with febrile neutropenia, course c/b nonconvulsant status [**Hospital 6033**]
   transferred to ICU for induction of phenobarb coma, intubated for
   airway control. Continued to have breakthrough sz as of 2 days ago.
   She is overbreathing on vent but remains minimally responsive off
   propfol, hypoventialting on PS trial, likely from ongoing effects of
   phenobarbital as well as possible post-ictal component.
   # Status epilepticus
Neuro input regarding antiepileptic regimen.  We
   continue to follow her phenobarb levels and have increased dil and
   keppra given breakthrough sz activity, following levels. She remains on
   continuous eeg monitoring. Would  consider repeat CNS imaging given
   slow recovery.
   # Respiratory support
for airway protection in setting of phenobarb
   load.  She is now intermittently overbreathing vent but ability to
   extubate is limited by hypoventilation. Will check abg as she had a sig
   metabolic alkalosis from prior bicrab gtt which could contribute.
   Retry SBT/PS trials.
   # Lymphoma
as per bmt. Remains on dexa, acyclovir and pcp [**Name Initial (PRE) 3261**].
   Discuss d/c leucovorin given low mtx level.
   # fever--resolved--f/u pending cxs.
   # Mild thrombocytopenia
stable, likely mtx related, continue to monitor
   # HTN
continue Lopressor, prn hydral
   Remainder as per resident progress note.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2144-5-9**] 05:10 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2144-5-5**] 04:00 PM
   Multi Lumen - [**2144-5-6**] 06:40 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2144-05-10 07:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Continues to be apneic when attempted on pressure support
   Phenobarb still held for supratherapeutic levels
   Allergies:
   Amoxicillin
   Nausea/Vomiting
   Last dose of Antibiotics:
   Acyclovir - [**2144-5-9**] 11:40 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2144-5-9**] 02:00 PM
   Fosphenytoin - [**2144-5-9**] 10:13 PM
   Heparin Sodium (Prophylaxis) - [**2144-5-10**] 05:51 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-5-10**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 81 (68 - 84) bpm
   BP: 158/76(96) {129/55(73) - 170/79(100)} mmHg
   RR: 19 (11 - 19) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  2,641 mL
                                                                    643 mL
   PO:
             TF:
                                                                    971 mL
                                                                    310 mL
   IVF:
                                                                  1,670 mL
                                                                    333 mL
   Blood products:
   Total out:
                                                                  2,320 mL
                                                                  1,100 mL
   Urine:
                                                                  2,320 mL
                                                                  1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    321 mL
                                                                   -456 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 10
   RR (Spontaneous): 5
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 278
   PIP: 31 cmH2O
   Plateau: 20 cmH2O
   SpO2: 98%
   ABG: 7.48/42/143/30/7
   Ve: 7.1 L/min
   PaO2 / FiO2: 358
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric)
   Abdominal: Soft, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   135 K/uL
   8.7 g/dL
   108 mg/dL
   0.7 mg/dL
   30 mEq/L
   3.7 mEq/L
   16 mg/dL
   95 mEq/L
   131 mEq/L
   25.5 %
   4.2 K/uL
        [image002.jpg]
                             [**2144-5-6**]  03:27 AM
                             [**2144-5-6**]  05:24 PM
                             [**2144-5-7**]  03:47 AM
                             [**2144-5-7**]  02:58 PM
                             [**2144-5-7**]  08:11 PM
                             [**2144-5-8**]  04:13 AM
                             [**2144-5-9**]  04:06 AM
                             [**2144-5-9**]  09:32 PM
                             [**2144-5-9**]  10:20 PM
                             [**2144-5-10**]  05:54 AM
   WBC
   4.6
   5.1
   6.9
   5.5
   4.1
   4.3
   4.2
   Hct
   24.6
   25.4
   27.7
   27.4
   24.7
   25.1
   25.5
   Plt
   156
   143
   166
   159
   140
   134
   135
   Cr
   0.9
   0.9
   0.8
   0.8
   0.8
   0.8
   0.7
   TCO2
   32
   32
   Glucose
   118
   106
   78
   139
   120
   114
   108
   Other labs: Differential-Neuts:60.0 %, Band:0.0 %, Lymph:19.6 %,
   Mono:9.7 %, Eos:10.5 %, Ca++:8.4 mg/dL, Mg++:1.4 mg/dL, PO4:3.3 mg/dL
   Fluid analysis / Other labs: ALT: 10 AP: 72 Tbili: 0.2
   AST: 11 LDH: 217
   PT: 13.1  PTT: 23.9  INR: 1.1
   Gran-Ct: 2530
   Imaging: CXR:
   Microbiology: UCx [**5-6**]: GPCs
   UCx [**5-8**]: NGTD
   BCx [**5-6**]: Pending
   Assessment and Plan
   75 y/o F with T Cell Lymphoma with CNS involvement with non-convulsive
   recurrent status [**Hospital 6033**] transferred to [**Hospital Unit Name 10**] for elective
   intubation for initiation of phenobarbital. Pt  continues to be
   somnolent off propofol, with evidence of continued seizing through
   dilantin, phenobarb, and keppra.
   Status Epilepticus: The patient is in non-convulsive status due to
   TCL. Seizure activity initially suppressed after load with one
   transient repeat episode lasting 15 min on afternoon of [**5-6**], but then
   had several episodes on afternoon of [**5-7**].  Failure to wake not likely
   related to status epilepticus, more likely related to sedating effects
   of meds.
   - holding phenobarbital and check level; f/u w/ neuro re: dose
   - Continue dilantin dose to 130 tid , will continue to follow daily
   levels of dilantin and free dilantin; adjust accordingly
   - Levetiracetam 2000mg [**Hospital1 **] with level check on AM of [**5-10**]
   - Neurology to continue following. Continue continuous EEG monitoring
   - F/u CSF viral culture
   # Sedation/ Unresponsiveness: Pt has been off propofol for 36 hours and
   only intermittently withdrawing to pain. As per neurology, not expected
   with initiation of phenobarbital. Will continue to monitor for
   improvement pending dose adjustments as above.  [**Month (only) 11**] be hard to strike
   balance that would avoid sedation yet effectively suppress seizures.
   - D/w Neuro re: need for repeat imaging
   - check phenobarb/dilantin/keppra levels as above and d/w neuro re:
   dosing
  Ventilatory support. Intubated electively for phenobarb initiation
   without underlying acitve pulm issues.  Continued AC for now as pt
   tolerating well off propofol.  Ability to wean limited by apnea on PSV
   and dependent on mental status as discussed above.
   Fevers. Admitted to [**Hospital Unit Name 10**] on VANCO/CEFEPIME for febrile neutropenia
   on initial admission; both were discontinued shortly after arrival to
   [**Hospital Unit Name 10**].  Pt spiked on [**5-6**] to 103.0. Time course does not fit with VAP
   but could be related to multiple lines. Of note, pt did initially p/w
   fevers prior to lymphoma diagnosis (B symptoms)
   -Continue Acyclovir and f/u CSF viral cultures
   - hold off on Abx unless we identify source or decompensates in which
   case we would resume previous broad covg
   - f/u BCX and UCX
  T Cell Lymphoma: Dr. [**Last Name (STitle) 980**] is her neuro-oncologist.
   - Received CHOP, MTX, IT cytarabine; continuing dexamethasone, on PCP
   [**Name9 (PRE) 1694**]
   [**Name Initial (PRE) **] [**Name9 (PRE) 6129**] are labile, will follow CBC and ANC.
   - Per BMT, alkalinzation no longer necessary, leucovorin dosing to be
   clarified with BMT
   # Gram + cocci in UCx: Per report c/w staph. UA done at same time was
   clean. Repeat UA clean.
   - f/u repeat Cx
   Hypertension:
   - On metoprolol currently, adequately  controlled majority of time
   - Following for now,  PRN hydralazine as needed
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2144-5-9**] 04:58 PM 40 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2144-5-5**] 04:00 PM
   Multi Lumen - [**2144-5-6**] 06:40 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2144-05-10 12:04:00 Physician Attending Progress Note
Chief Complaint: STATUS EPILEPTICUS
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   continued to have apnea on ps trial
   Allergies:
   Amoxicillin
   Nausea/Vomiting
   Last dose of Antibiotics:
   Acyclovir - [**2144-5-10**] 08:05 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2144-5-9**] 02:00 PM
   Fosphenytoin - [**2144-5-9**] 10:13 PM
   Heparin Sodium (Prophylaxis) - [**2144-5-10**] 05:51 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-5-10**] 12:03 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.1
C (97
   HR: 81 (68 - 85) bpm
   BP: 119/54(69) {119/54(69) - 170/79(100)} mmHg
   RR: 13 (12 - 19) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  2,641 mL
                                                                  1,370 mL
   PO:
             TF:
                                                                    971 mL
                                                                    474 mL
   IVF:
                                                                  1,670 mL
                                                                    756 mL
   Blood products:
   Total out:
                                                                  2,320 mL
                                                                  1,620 mL
   Urine:
                                                                  2,320 mL
                                                                  1,620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    321 mL
                                                                   -250 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 10
   RR (Spontaneous): 2
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 278
   PIP: 29 cmH2O
   Plateau: 17 cmH2O
   SpO2: 99%
   ABG: 7.48/42/143/30/7
   Ve: 5.4 L/min
   PaO2 / FiO2: 358
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.7 g/dL
   135 K/uL
   108 mg/dL
   0.7 mg/dL
   30 mEq/L
   3.7 mEq/L
   16 mg/dL
   95 mEq/L
   131 mEq/L
   25.5 %
   4.2 K/uL
        [image002.jpg]
                             [**2144-5-6**]  03:27 AM
                             [**2144-5-6**]  05:24 PM
                             [**2144-5-7**]  03:47 AM
                             [**2144-5-7**]  02:58 PM
                             [**2144-5-7**]  08:11 PM
                             [**2144-5-8**]  04:13 AM
                             [**2144-5-9**]  04:06 AM
                             [**2144-5-9**]  09:32 PM
                             [**2144-5-9**]  10:20 PM
                             [**2144-5-10**]  05:54 AM
   WBC
   4.6
   5.1
   6.9
   5.5
   4.1
   4.3
   4.2
   Hct
   24.6
   25.4
   27.7
   27.4
   24.7
   25.1
   25.5
   Plt
   156
   143
   166
   159
   140
   134
   135
   Cr
   0.9
   0.9
   0.8
   0.8
   0.8
   0.8
   0.7
   TCO2
   32
   32
   Glucose
   118
   106
   78
   139
   120
   114
   108
   Other labs: PT / PTT / INR:13.1/23.9/1.1, ALT / AST:[**9-27**], Alk Phos / T
   Bili:72/0.2, Differential-Neuts:60.0 %, Band:0.0 %, Lymph:19.6 %,
   Mono:9.7 %, Eos:10.5 %, Lactic Acid:0.7 mmol/L, Albumin:2.9 g/dL,
   LDH:217 IU/L, Ca++:8.4 mg/dL, Mg++:1.4 mg/dL, PO4:3.3 mg/dL
   Fluid analysis / Other labs: phenobarb 30.9
   Imaging: cxr clear, et/ r ij in position
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SEIZURE, WITH STATUS EPILEPTICUS
   75 y.o. with T-cell lymphoma with CNS involvement, admitted initially
   with febrile neutropenia, course c/b nonconvulsant status [**Hospital 6033**]
   transferred to ICU for induction of phenobarb coma, intubated for
   airway control. No evidence of recurrent sz for > 2 days.  She is
   overbreathing on vent but remains minimally responsive off propfol,
   hypoventialting amd apneic on PS trial, likely from ongoing effects of
   phenobarbital.
   # Status epilepticus
Neuro input regarding antiepileptic regimen.  We
   continue to follow her phenobarb levels and have increased dil and
   keppra given breakthrough sz activity a few days ago, following levels.
   She remains on continuous eeg monitoring. Would consider repeat CNS
   imaging given slow recovery and if any clinical deterioration.
   # Respiratory support
for airway protection in setting of phenobarb
   load.  She is now intermittently overbreathing vent but ability to
   extubate is limited by hypoventilation.  Retry SBT/PS trials.
    #hyponatremia--limit free water, check osms
   # Lymphoma
as per bmt. Remains on dexa, acyclovir and pcp [**Name Initial (PRE) 3261**].
   Discuss d/c leucovorin given low mtx level.
   # HTN
continue Lopressor, prn hydral
   Remainder as per resident progress note.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2144-5-9**] 04:58 PM 40 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2144-5-5**] 04:00 PM
   Multi Lumen - [**2144-5-6**] 06:40 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2144-05-11 07:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   no acute events overnight
   Allergies:
   Amoxicillin
   Nausea/Vomiting
   Last dose of Antibiotics:
   Acyclovir - [**2144-5-11**] 12:38 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2144-5-10**] 02:42 PM
   Heparin Sodium (Prophylaxis) - [**2144-5-11**] 06:16 AM
   Fosphenytoin - [**2144-5-11**] 06:16 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-5-11**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37
C (98.6
   HR: 77 (67 - 81) bpm
   BP: 130/50(70) {90/37(50) - 165/76(119)} mmHg
   RR: 13 (12 - 20) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  2,427 mL
                                                                    869 mL
   PO:
             450 mL
   TF:
                                                                    717 mL
   IVF:
                                                                  1,570 mL
                                                                    419 mL
   Blood products:
   Total out:
                                                                  2,845 mL
                                                                    670 mL
   Urine:
                                                                  2,845 mL
                                                                    670 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -418 mL
                                                                    199 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 10
   RR (Spontaneous): 5
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 132
   PIP: 25 cmH2O
   Plateau: 21 cmH2O
   SpO2: 98%
   ABG: ///31/
   Ve: 5.7 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube in place
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric)
   Abdominal: Soft, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Does not Respond stimuli
   Labs / Radiology
   153 K/uL
   8.0 g/dL
   89 mg/dL
   0.7 mg/dL
   31 mEq/L
   4.1 mEq/L
   18 mg/dL
   95 mEq/L
   133 mEq/L
   23.4 %
   3.6 K/uL
        [image002.jpg]
                             [**2144-5-7**]  03:47 AM
                             [**2144-5-7**]  02:58 PM
                             [**2144-5-7**]  08:11 PM
                             [**2144-5-8**]  04:13 AM
                             [**2144-5-9**]  04:06 AM
                             [**2144-5-9**]  09:32 PM
                             [**2144-5-9**]  10:20 PM
                             [**2144-5-10**]  05:54 AM
                             [**2144-5-10**]  04:20 PM
                             [**2144-5-11**]  04:20 AM
   WBC
   5.1
   6.9
   5.5
   4.1
   4.3
   4.2
   3.6
   Hct
   25.4
   27.7
   27.4
   24.7
   25.1
   25.5
   23.4
   Plt
   143
   166
   159
   140
   134
   135
   153
   Cr
   0.8
   0.8
   0.8
   0.8
   0.7
   0.8
   0.7
   TCO2
   32
   32
   Glucose
   78
   139
   120
   114
   108
   106
   89
   Other labs: PT / PTT / INR:13.5/29.7/1.2, ALT / AST:[**9-28**], Alk Phos / T
   Bili:73/0.2, Differential-Neuts:58.3 %, Band:0.0 %, Lymph:18.8 %,
   Mono:12.9 %, Eos:9.6 %, Lactic Acid:0.7 mmol/L, Albumin:2.9 g/dL,
   LDH:208 IU/L, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:4.0 mg/dL
   Microbiology: CSF: VIRAL CULTURE (Preliminary):    No Virus isolated so
   far. [**5-3**]
   Blood Cx [**5-6**]: NGTD
   Urine Cx [**5-8**]: FINAL no growth
   CXR [**5-10**]:
   Lung volumes have improved, and if there was mild edema in the left
   lower lobe
   yesterday it has cleared. Heart size is normal. Azygos vein is
   distended
   suggesting some increase in intravascular pressure or volume,
   unchanged. ET
   tube is in standard placement, nasogastric tube passes below the
   diaphragm and
   out of view. No pneumothorax or pleural effusion.
   CXR [**5-11**]: unchanged
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SEIZURE, WITH STATUS EPILEPTICUS
   75 y/o F with T Cell Lymphoma with CNS involvement with non-convulsive
   recurrent status [**Hospital 6033**] transferred to [**Hospital Unit Name 10**] for elective
   intubation for initiation of phenobarbital. Pt  continues to be
   somnolent off propofol.
   Seizures/Status Epilepticus: The patient is currently not in status
   epilepticus and continues to be controlled on Phenobarb still
   therapeutic from last dose, Keppra, and fosphenytoin. Failure to wake
   not likely related to status epilepticus, more likely related to
   sedating effects of meds.
   - holding phenobarbital and check level; f/u w/ neuro re: dose
   - Continue dilantin dose to 130 tid , will continue to follow daily
   levels of dilantin and free dilantin; adjust accordingly
   - Levetiracetam 2000mg to PO bid
   - Neurology to continue following. Continue continuous EEG monitoring
   - F/u CSF viral culture
   # Sedation/ Unresponsiveness: Pt has been off propofol for days and
   only intermittently withdrawing to pain. As per neurology, not expected
   with initiation of phenobarbital. Will continue to monitor for
   improvement pending dose adjustments as above.  [**Month (only) 11**] be hard to strike
   balance that would avoid sedation yet effectively suppress seizures.
   - D/w Neuro re: need for repeat imaging
   - check phenobarb/dilantin/keppra levels as above and d/w neuro re:
   dosing
  Ventilatory support. Intubated electively for phenobarb initiation
   without underlying acitve pulm issues.  Continued AC for now as pt
   tolerating well off propofol.  Ability to wean limited by hypopnea on
   PSV and dependent on mental status improvements as discussed above.
   Will attempt to transistion to PSV again
may be able to extubate
   despite unresponsiveness,; rpt ABG
  T Cell Lymphoma: Dr. [**Last Name (STitle) 980**] is her neuro-oncologist.
   - Received CHOP, MTX, IT cytarabine; continuing dexamethasone, on PCP
   [**Name9 (PRE) 1694**]
   [**Name Initial (PRE) **] [**Name9 (PRE) 6129**] are labile, will follow CBC and ANC.
   - Per BMT, alkalinzation no longer necessary, leucovorin dosing to be
   clarified with BMT
   - Continue Acyclovir
   Hypertension:
   - On metoprolol currently, adequately  controlled majority of time
   - Following for now,  PRN hydralazine as needed
   ICU Care
   Nutrition: TUBEFEEDS
   Glycemic Control:
   Lines:
   Multi Lumen - [**2144-5-6**] 06:40 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: dnr
   Disposition: icu

2144-05-11 12:09:00 Physician Attending Progress Note
Chief Complaint: STATUS EPILEPTICUS
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains minimally responsive off sedation
   History obtained from Medical records, ho
   Patient unable to provide history: Unresponsive
   Allergies:
   Amoxicillin
   Nausea/Vomiting
   Last dose of Antibiotics:
   Acyclovir - [**2144-5-11**] 07:38 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2144-5-10**] 02:42 PM
   Heparin Sodium (Prophylaxis) - [**2144-5-11**] 06:16 AM
   Fosphenytoin - [**2144-5-11**] 06:16 AM
   Other medications:
   per [**Month (only) **] --reviewed
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-5-11**] 11:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.7
C (98.1
   HR: 71 (70 - 81) bpm
   BP: 95/37(51) {90/37(50) - 148/70(119)} mmHg
   RR: 14 (12 - 20) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  2,427 mL
                                                                  1,237 mL
   PO:
             450 mL
   TF:
                                                                    717 mL
   IVF:
                                                                  1,570 mL
                                                                    697 mL
   Blood products:
   Total out:
                                                                  2,845 mL
                                                                    970 mL
   Urine:
                                                                  2,845 mL
                                                                    970 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -418 mL
                                                                    267 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 132
   PIP: 23 cmH2O
   Plateau: 18 cmH2O
   SpO2: 97%
   ABG: ///31/
   Ve: 6 L/min
   Physical Examination
   Opens eyes spontaneously, PERRLA
   CTA
   RR
   + BS, soft
   Trace edema
   Neurologic: Responds to: voice, but not following commands
   Labs / Radiology
   8.0 g/dL
   153 K/uL
   89 mg/dL
   0.7 mg/dL
   31 mEq/L
   4.1 mEq/L
   18 mg/dL
   95 mEq/L
   133 mEq/L
   23.4 %
   3.6 K/uL
        [image002.jpg]
                             [**2144-5-7**]  03:47 AM
                             [**2144-5-7**]  02:58 PM
                             [**2144-5-7**]  08:11 PM
                             [**2144-5-8**]  04:13 AM
                             [**2144-5-9**]  04:06 AM
                             [**2144-5-9**]  09:32 PM
                             [**2144-5-9**]  10:20 PM
                             [**2144-5-10**]  05:54 AM
                             [**2144-5-10**]  04:20 PM
                             [**2144-5-11**]  04:20 AM
   WBC
   5.1
   6.9
   5.5
   4.1
   4.3
   4.2
   3.6
   Hct
   25.4
   27.7
   27.4
   24.7
   25.1
   25.5
   23.4
   Plt
   143
   166
   159
   140
   134
   135
   153
   Cr
   0.8
   0.8
   0.8
   0.8
   0.7
   0.8
   0.7
   TCO2
   32
   32
   Glucose
   78
   139
   120
   114
   108
   106
   89
   Other labs: PT / PTT / INR:13.5/29.7/1.2, ALT / AST:[**9-28**], Alk Phos / T
   Bili:73/0.2, Differential-Neuts:58.3 %, Band:0.0 %, Lymph:18.8 %,
   Mono:12.9 %, Eos:9.6 %, Lactic Acid:0.7 mmol/L, Albumin:2.9 g/dL,
   LDH:208 IU/L, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:4.0 mg/dL
   Fluid analysis / Other labs: pheno barb 26.6
   dil 11.2
   Imaging: cxr--clear fields, no effusions, et ok, r ij ok
   Microbiology: csf viral cx ngtd
   bl [**5-6**] ngtd
   urine [**5-13**] neg
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SEIZURE, WITH STATUS EPILEPTICUS
   75 y.o. with T-cell lymphoma with CNS involvement, admitted initially
   with febrile neutropenia, course c/b nonconvulsant status [**Hospital 6033**]
   transferred to ICU for induction of phenobarb coma, intubated for
   airway control. Her ICU course has been complicated by recurrent sz
   activity
though now without evidence of recurrent sz for > 2 days and
   minimal responsiveness off propofol with hypoventilation and apnea on
   PS trials likely from ongoing effects of phenobarbital.
   # Status epilepticus
We continue to follow her phenobarb levels which
   are slowly decreasing holding further dosing.  She remains on keppra
   and dilantin, following levels. She remains on continuous eeg
   monitoring with no new evidence of breakthrough sz. Would consider
   repeat CNS imaging if any sign of clinical deterioration or worsening
   in neuron exam.  She remains minimally responsive though the
   respiratory depressive effects of phenobarb seem to be resolving at the
   current level.
   # Respiratory support
for airway protection in setting of phenobarb
   load.  She is no longer apneic or hypoventilating on PS.  Will continue
   PSW and move to SBT.  Would clarify neurology plan regarding phenobarb
   dosing and reintubation code status prior to considering extubation
   given that she has poorly tolerated therapeutic levels of phenobarb
   thus far.
   # metabolic alk
was on bicarb gtt which is now off, check cvp, good
   urine output suggest against volume depletion, repeat abg
   # hyponatremia
urine osms and sodium most c/w siadh, limit free water
   # Lymphoma
as per bmt. Remains on dexa, acyclovir,and pcp [**Name Initial (PRE) 3261**].
   Discuss d/c leucovorin given low mtx level.
   # HTN
continue Lopressor, prn hydral
   Remainder as per resident progress note.
   ICU Care
   Nutrition: TFs
   Glycemic Control:
   Lines:
   Multi Lumen - [**2144-5-6**] 06:40 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2144-05-12 06:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - off phenobarb, not seen by neuro yesterday
   - on PSV yesterday, breathing fast and shallow
   - need to discuss with neurology if she will need pheno
   - stopped leukovorin, as MTX levels no longer detectable
   Allergies:
   Amoxicillin
   Nausea/Vomiting
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2144-5-11**] 08:44 PM
   Acyclovir - [**2144-5-12**] 12:10 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2144-5-11**] 04:41 PM
   Heparin Sodium (Prophylaxis) - [**2144-5-12**] 05:19 AM
   Fosphenytoin - [**2144-5-12**] 05:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-5-12**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 85 (71 - 85) bpm
   BP: 160/55(77) {95/37(51) - 160/72(93)} mmHg
   RR: 38 (13 - 38) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
    CVP: 6 (3 - 9)mmHg
   Total In:
                                                                  2,412 mL
                                                                    506 mL
   PO:
                                                                    450 mL
   TF:
                                                                    544 mL
                                                                    271 mL
   IVF:
                                                                  1,278 mL
                                                                    235 mL
   Blood products:
   Total out:
                                                                  2,460 mL
                                                                    530 mL
   Urine:
                                                                  2,460 mL
                                                                    530 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -48 mL
                                                                    -24 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 303 (266 - 326) mL
   PS : 14 cmH2O
   RR (Set): 10
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 145
   PIP: 18 cmH2O
   Plateau: 18 cmH2O
   SpO2: 98%
   ABG: 7.45/47/84.[**Numeric Identifier 1132**]/30/7 at 6 pm on these settings
   Ve: 8.1 L/min
   PaO2 / FiO2: 210
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube in place
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric)
   Abdominal: Soft, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Does not Respond stimuli
   Labs / Radiology
   195 K/uL
   8.6 g/dL
   103 mg/dL
   0.7 mg/dL
   30 mEq/L
   4.1 mEq/L
   19 mg/dL
   92 mEq/L
   130 mEq/L
   24.8 %
   4.6 K/uL
        [image002.jpg]
                             [**2144-5-7**]  08:11 PM
                             [**2144-5-8**]  04:13 AM
                             [**2144-5-9**]  04:06 AM
                             [**2144-5-9**]  09:32 PM
                             [**2144-5-9**]  10:20 PM
                             [**2144-5-10**]  05:54 AM
                             [**2144-5-10**]  04:20 PM
                             [**2144-5-11**]  04:20 AM
                             [**2144-5-11**]  06:38 PM
                             [**2144-5-12**]  04:14 AM
   WBC
   6.9
   5.5
   4.1
   4.3
   4.2
   3.6
   4.6
   Hct
   27.7
   27.4
   24.7
   25.1
   25.5
   23.4
   24.8
   Plt
   166
   159
   140
   134
   135
   153
   195
   Cr
   0.8
   0.8
   0.8
   0.7
   0.8
   0.7
   0.7
   TCO2
   32
   34
   Glucose
   139
   120
   114
   108
   106
   89
   103
   Other labs: PT / PTT / INR:13.8/33.0/1.2, ALT / AST:15/18, Alk Phos / T
   Bili:89/0.2, Differential-Neuts:58.3 %, Band:0.0 %, Lymph:18.8 %,
   Mono:12.9 %, Eos:9.6 %, Lactic Acid:1.2 mmol/L, Albumin:2.9 g/dL,
   LDH:224 IU/L, Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:4.4 mg/dL
   Blood ([**5-6**]) and urine ([**5-8**])  cx NGTD
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SEIZURE, WITH STATUS EPILEPTICUS
   75 y/o F with T Cell Lymphoma with CNS involvement with non-convulsive
   recurrent status [**Hospital 6033**] transferred to [**Hospital Unit Name 10**] for elective
   intubation for initiation of phenobarbital. Pt  continues to be
   somnolent off propofol.
   Seizures/Status Epilepticus: The patient is currently not in status
   epilepticus and continues to be controlled on Phenobarb still
   therapeutic from last dose, Keppra, and fosphenytoin. Failure to wake
   not likely related to status epilepticus, more likely related to
   sedating effects of meds.
   - holding phenobarbital and check level; f/u w/ neuro re: dose
   - Continue dilantin dose to 130 tid , will continue to follow daily
   levels of dilantin and free dilantin; adjust accordingly
   - Levetiracetam 2000mg to PO bid
   - Neurology to continue following. Continue continuous EEG monitoring
   - F/u CSF viral culture
   # Sedation/ Unresponsiveness: Pt has been off propofol for days and
   only intermittently withdrawing to pain. As per neurology, not expected
   with initiation of phenobarbital. Will continue to monitor for
   improvement pending dose adjustments as above.  [**Month (only) 11**] be hard to strike
   balance that would avoid sedation yet effectively suppress seizures.
   - D/w Neuro re: need for repeat imaging
   - check phenobarb/dilantin/keppra levels as above and d/w neuro re:
   dosing
  Ventilatory support. Intubated electively for phenobarb initiation
   without underlying acitve pulm issues.  Continued AC for now as pt
   tolerating well off propofol.  Ability to wean limited by hypopnea on
   PSV and dependent on mental status improvements as discussed above.
   Will attempt to transistion to PSV again
may be able to extubate
   despite unresponsiveness,; rpt ABG
  T Cell Lymphoma: Dr. [**Last Name (STitle) 980**] is her neuro-oncologist.
   - Received CHOP, MTX, IT cytarabine; continuing dexamethasone, on PCP
   [**Name9 (PRE) 1694**]
   [**Name Initial (PRE) **] [**Name9 (PRE) 6129**] are labile, will follow CBC and ANC.
   - Per BMT, alkalinzation no longer necessary, leucovorin dosing to be
   clarified with BMT
   - Continue Acyclovir
   Hypertension:
   - On metoprolol currently, adequately  controlled majority of time
   - Following for now,  PRN hydralazine as needed
   ICU Care
   Nutrition: TUBEFEEDS
   Glycemic Control:
   Lines:
   Multi Lumen - [**2144-5-6**] 06:40 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: dnr
   Disposition: icu

2144-05-13 07:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Not seen by neuro (but spoke with Dr. [**Last Name (STitle) 6249**] on the phone), still
   awaiting her to wake up from phenobarb coma
   - still no phenobarb
   Allergies:
   Amoxicillin
   Nausea/Vomiting
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2144-5-11**] 08:44 PM
   Acyclovir - [**2144-5-12**] 11:20 PM
   Infusions:
   Other ICU medications:
   Fosphenytoin - [**2144-5-13**] 05:15 AM
   Heparin Sodium (Prophylaxis) - [**2144-5-13**] 06:02 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-5-13**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37
C (98.6
   HR: 87 (78 - 90) bpm
   BP: 133/62(77) {116/41(59) - 149/67(86)} mmHg
   RR: 25 (21 - 36) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
    CVP: 7 (5 - 10)mmHg
   Total In:
                                                                  1,920 mL
                                                                    477 mL
   PO:
   TF:
                                                                    960 mL
                                                                    285 mL
   IVF:
                                                                    880 mL
                                                                    192 mL
   Blood products:
   Total out:
                                                                  1,655 mL
                                                                    705 mL
   Urine:
                                                                  1,655 mL
                                                                    705 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    265 mL
                                                                   -227 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 318 (275 - 319) mL
   PS : 14 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 142
   PIP: 20 cmH2O
   SpO2: 96%
   ABG: ///32/
   Ve: 10.5 L/min
   Physical Examination
   -RRR NO M/R/G
   -Possibly opened eyes to command (which is new) but did not track; did
   not withdraw to pain in extremities which she had done before gagging
   intermittently.
   -CTAB anteriorly
   Labs / Radiology
   206 K/uL
   8.2 g/dL
   112 mg/dL
   0.8 mg/dL
   32 mEq/L
   4.2 mEq/L
   23 mg/dL
   93 mEq/L
   134 mEq/L
   23.5 %
   5.0 K/uL
        [image002.jpg]
                             [**2144-5-8**]  04:13 AM
                             [**2144-5-9**]  04:06 AM
                             [**2144-5-9**]  09:32 PM
                             [**2144-5-9**]  10:20 PM
                             [**2144-5-10**]  05:54 AM
                             [**2144-5-10**]  04:20 PM
                             [**2144-5-11**]  04:20 AM
                             [**2144-5-11**]  06:38 PM
                             [**2144-5-12**]  04:14 AM
                             [**2144-5-13**]  03:50 AM
   WBC
   5.5
   4.1
   4.3
   4.2
   3.6
   4.6
   5.0
   Hct
   27.4
   24.7
   25.1
   25.5
   23.4
   24.8
   23.5
   Plt
   159
   140
   134
   135
   153
   195
   206
   Cr
   0.8
   0.8
   0.7
   0.8
   0.7
   0.7
   0.8
   TCO2
   32
   34
   Glucose
   120
   114
   108
   106
   89
   103
   112
   Other labs: PT / PTT / INR:13.8/33.0/1.2, ALT / AST:15/18, Alk Phos / T
   Bili:89/0.2, Differential-Neuts:58.3 %, Band:0.0 %, Lymph:18.8 %,
   Mono:12.9 %, Eos:9.6 %, Lactic Acid:1.2 mmol/L, Albumin:2.9 g/dL,
   LDH:224 IU/L, Ca++:8.8 mg/dL, Mg++:1.7 mg/dL, PO4:4.5 mg/dL
   Imaging: CXR: [**5-12**]: no change in lines or lungs from previous
   No CXR [**5-13**]
   Microbiology: CSF [**5-3**]: VIRAL CULTURE (Preliminary):    No Virus
   isolated so far
   All blood Cx fianl negative
   Assessment and Plan
 HYPERTENSION, BENIGN
 LYMPHOMA (CANCER, MALIGNANT NEOPLASM, LYMPHOID)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SEIZURE, WITH STATUS EPILEPTICUS
   75 y/o F with T Cell Lymphoma with CNS involvement with non-convulsive
   recurrent status [**Hospital 6033**] transferred to [**Hospital Unit Name 10**] for elective
   intubation for initiation of phenobarbital,  now persistently requiring
   mechanical ventilation because of ongoing sedation, likely because of
   phenobarbital.
   # Sedation/ Unresponsiveness:  Current mental status is likely
   secondary to persistent phenobarbital.  This has trended down from a
   peak of 35 but has persisted in the low 20s for days.  Although
   portions of her neurologic exam (ability to open eyes, gag) are
   improved, others (withdrawal to pain) are worse and thus it is
   difficult to say whether there has been any meaningful improvement at
   this point.  Neuro has said that there is no role for rpt imaging.
   - continue to check daily phenobarbital levels
   - would discuss with neuro further imaging or other work-up if she does
   not become more responsive as phenobarb levels decrease
   .
   Seizures/Status Epilepticus: No longer seizing, on keppra and
   fosphenytoin.  Phenobarbital levels are trending down.
   - continue to hold phenobarbital and check levels
   -  would prefer to avoid phenobarbital in the future given prolonged
   sedation, as above
   - continue dilantin dose to 130 tid , will continue to follow daily
   levels of dilantin and free dilantin; adjust accordingly in
   consultation with neurology
   - continue levetiracetam 2000mg to PO bid
   - Neurology to continue following
   - continuous EEG monitorring off as has not seized x 72 hrs
   .
  Ventilatory support.:  Intubated electively for phenobarb initiation
   without underlying acitve pulmonary issues.  Currently on PSV 14/5 and
   tachypneic with small tidal volumes; will increase PSV to 18 in hope of
   decreaseing RR and increasing TV.   The only barrier to extubation
   currently is her  mental status.  Hopefully we will be able to move
   toward this in the upcoming days.
   - discuss with family her current status
   - FAMILY MTG tomorrow with BMT and Epilepsy service re: prognosis,
   goals of care
  T Cell Lymphoma: Dr. [**Last Name (STitle) 980**] is her neuro-oncologist.
   - Received CHOP, MTX, IT cytarabine
   - leukovorin stopped
   - continuing dexamethasone, on PCP [**Name9 (PRE) 1694**]
   [**Name Initial (PRE) **] Continue Acyclovir for PPX
   Hypertension: well controlled on metoprolol
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2144-5-13**] 04:15 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2144-5-6**] 06:40 PM
   Prophylaxis:
   DVT: sqh
   Stress ulcer:  h2b
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR
   Disposition: icu

2144-05-14 07:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2144-5-13**] 09:49 PM
   - Required propofol for MRI
   No acute events or changes in mgt overnight
   Allergies:
   Amoxicillin
   Nausea/Vomiting
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2144-5-11**] 08:44 PM
   Acyclovir - [**2144-5-14**] 12:34 AM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2144-5-14**] 03:00 AM
   Heparin Sodium (Prophylaxis) - [**2144-5-14**] 06:43 AM
   Fosphenytoin - [**2144-5-14**] 06:43 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-5-14**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 38.1
C (100.5
   HR: 89 (75 - 97) bpm
   BP: 132/52(69) {119/48(58) - 185/82(103)} mmHg
   RR: 12 (10 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
    CVP: 5 (5 - 5)mmHg
   Total In:
                                                                  1,560 mL
                                                                    530 mL
   PO:
   TF:
                                                                    770 mL
                                                                    263 mL
   IVF:
                                                                    680 mL
                                                                    247 mL
   Blood products:
   Total out:
                                                                  2,020 mL
                                                                  1,050 mL
   Urine:
                                                                  2,020 mL
                                                                  1,050 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -460 mL
                                                                   -520 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 310 (297 - 488) mL
   PS : 18 cmH2O
   RR (Set): 10
   RR (Spontaneous): 36
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 129
   PIP: 6 cmH2O
   SpO2: 100%
   ABG: 7.45/49/133/27/9
   Ve: 10.5 L/min
   PaO2 / FiO2: 332
   Physical Examination
   No withdrawal from pain, pupils reactive B/L. blinking. 2+ peripheral
   pulses b/l.
   Labs / Radiology
   218 K/uL
   9.0 g/dL
   158 mg/dL
   0.7 mg/dL
   27 mEq/L
   4.5 mEq/L
   21 mg/dL
   91 mEq/L
   130 mEq/L
   25.8 %
   9.0 K/uL
        [image002.jpg]
                             [**2144-5-9**]  09:32 PM
                             [**2144-5-9**]  10:20 PM
                             [**2144-5-10**]  05:54 AM
                             [**2144-5-10**]  04:20 PM
                             [**2144-5-11**]  04:20 AM
                             [**2144-5-11**]  06:38 PM
                             [**2144-5-12**]  04:14 AM
                             [**2144-5-13**]  03:50 AM
                             [**2144-5-13**]  04:48 PM
                             [**2144-5-14**]  03:47 AM
   WBC
   4.3
   4.2
   3.6
   4.6
   5.0
   9.0
   Hct
   25.1
   25.5
   23.4
   24.8
   23.5
   25.8
   Plt
   134
   135
   153
   195
   206
   218
   Cr
   0.7
   0.8
   0.7
   0.7
   0.8
   0.7
   TCO2
   32
   34
   35
   Glucose
   108
   106
   89
   103
   112
   158
   Other labs: PT / PTT / INR:14.1/30.4/1.2, ALT / AST:20/22, Alk Phos / T
   Bili:102/0.2, Differential-Neuts:58.3 %, Band:0.0 %, Lymph:18.8 %,
   Mono:12.9 %, Eos:9.6 %, Lactic Acid:1.2 mmol/L, Albumin:2.9 g/dL,
   LDH:273 IU/L, Ca++:9.0 mg/dL, Mg++:1.7 mg/dL, PO4:3.6 mg/dL
   Imaging:
   MRI: prelim: unchanged
   Microbiology: All  BCx and UCx are negative (final)
   [**5-3**] CSF viral Cx prelim negative
   Assessment and Plan
 HYPERTENSION, BENIGN
 LYMPHOMA (CANCER, MALIGNANT NEOPLASM, LYMPHOID)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SEIZURE, WITH STATUS EPILEPTICUS
   75 y/o F with T Cell Lymphoma with CNS involvement with non-convulsive
   recurrent status [**Hospital 6033**] transferred to [**Hospital Unit Name 10**] for elective
   intubation for initiation of phenobarbital,  now persistently requiring
   mechanical ventilation because of ongoing sedation, likely because of
   phenobarbital.
   # Sedation/ Unresponsiveness:  Current mental status is likely
   secondary to persistent phenobarbital.  This has trended down from a
   peak of 35 but has persisted in the low 20s for days.  Although
   portions of her neurologic exam (ability to open eyes, gag) are
   improved, others (withdrawal to pain) are worse and thus it is
   difficult to say whether there has been any meaningful improvement at
   this point.  Neuro has said that there is no role for rpt imaging.
   - continue to check daily phenobarbital levels
   - MRI from last night unchanged from prior on prelim read; f/u fianl
   report
   .
   Seizures/Status Epilepticus: No longer seizing, on keppra and
   fosphenytoin.  Phenobarbital levels are trending down.
   - continue to hold phenobarbital and check levels
   -  would prefer to avoid phenobarbital in the future given prolonged
   sedation, as above
   - continue dilantin dose to 130 tid , will continue to follow daily
   levels of dilantin and free dilantin; adjust accordingly in
   consultation with neurology
   - continue levetiracetam 2000mg to PO bid
   - Neurology to continue following
   - continuous EEG monitorring off as has not seized x 72 hrs
   .
  Ventilatory support.:  Intubated electively for phenobarb initiation
   without underlying acitve pulmonary issues.  Currently on PSV 14/5 and
   tachypneic with small tidal volumes; will increase PSV to 18 in hope of
   decreaseing RR and increasing TV.   The only barrier to extubation
   currently is her  mental status.  Hopefully we will be able to move
   toward this in the upcoming days.
   - discuss with family her current status DURING FAMILY MTG THIS PM
   # Leukocytosis/ low-grade fever: Cx sputum, Blood, Urine. Start empiric
   Vanco/zosyn (d1= [**5-14**]). Concern for VAP
   - daily CXR
   - trend fever/WBC
   - F/U CULTURES; if no yield on sputum, will get mini-BAL
   - review meds for source of eosinophilia
especially unusual as she is
   on steroids.
   #  Hyponatremia: likely not fluid depletion given falling/stable Cr.
   Has multiple etiologies in favor of SIADH.
   - U lytes/osms
   - restrict free H20
  T Cell Lymphoma: Dr. [**Last Name (STitle) 980**] is her neuro-oncologist.
   - Received CHOP, MTX, IT cytarabine
   - leukovorin stopped
   - continuing dexamethasone, on PCP [**Name9 (PRE) 1694**]
   [**Name Initial (PRE) **] Continue Acyclovir for PPX
   Hypertension: well controlled on metoprolol
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2144-5-14**] 03:30 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2144-5-6**] 06:40 PM
   Prophylaxis:
   DVT: SQH
   Stress ulCER: H2B
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR
   Disposition: icu

2144-05-15 06:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2144-5-14**] 01:36 PM
   drawn off central line
 SPUTUM CULTURE - At [**2144-5-14**] 01:36 PM
 URINE CULTURE - At [**2144-5-14**] 03:30 PM
 FEVER - 102.0
F - [**2144-5-15**] 12:00 AM
   - uncomfortable on PSV
 back on AC
   - family meeting:  watch until phenobarb drops below 15 or until Monday
   - treating for VAP with vanc/zosyn given leukocytosis and low-grade
   fevers
   Allergies:
   Amoxicillin
   Nausea/Vomiting
   Last dose of Antibiotics:
   Piperacillin - [**2144-5-14**] 01:49 PM
   Vancomycin - [**2144-5-14**] 08:03 PM
   Acyclovir - [**2144-5-15**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2144-5-15**] 12:00 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2144-5-14**] 06:16 PM
   Fosphenytoin - [**2144-5-14**] 10:18 PM
   Heparin Sodium (Prophylaxis) - [**2144-5-15**] 05:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-5-15**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 38
C (100.4
   HR: 92 (78 - 113) bpm
   BP: 142/49(71) {99/31(48) - 173/88(109)} mmHg
   RR: 13 (10 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  2,964 mL
                                                                    654 mL
   PO:
             TF:
                                                                    944 mL
                                                                    267 mL
   IVF:
                                                                  1,780 mL
                                                                    267 mL
   Blood products:
   Total out:
                                                                  1,894 mL
                                                                    285 mL
   Urine:
                                                                  1,894 mL
                                                                    285 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,070 mL
                                                                    369 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 411 (411 - 450) mL
   PS : 18 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 24 cmH2O
   Plateau: 18 cmH2O
   SpO2: 98%
   ABG: ///27/
   Ve: 8.2 L/min
   Physical Examination
   No withdrawal from pain, pupils reactive B/L. blinking. 2+ peripheral
   pulses b/l.
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   92 K/uL
   7.3 g/dL
   153 mg/dL
   1.3 mg/dL
   27 mEq/L
   4.0 mEq/L
   30 mg/dL
   91 mEq/L
   131 mEq/L
   20.7 %
   8.6 K/uL
         [image002.jpg]
                             [**2144-5-9**]  10:20 PM
                             [**2144-5-10**]  05:54 AM
                             [**2144-5-10**]  04:20 PM
                             [**2144-5-11**]  04:20 AM
                             [**2144-5-11**]  06:38 PM
                             [**2144-5-12**]  04:14 AM
                             [**2144-5-13**]  03:50 AM
                             [**2144-5-13**]  04:48 PM
                             [**2144-5-14**]  03:47 AM
                             [**2144-5-15**]  03:57 AM
   WBC
   4.2
   3.6
   4.6
   5.0
   9.0
   8.6
   Hct
   25.5
   23.4
   24.8
   23.5
   25.8
   20.7
   Plt
   135
   153
   195
   206
   218
   92
   Cr
   0.7
   0.8
   0.7
   0.7
   0.8
   0.7
   1.3
   TCO2
   32
   34
   35
   Glucose
   108
   106
   89
   103
   112
   158
   153
   Other labs: PT / PTT / INR:14.1/30.4/1.2, ALT / AST:20/22, Alk Phos / T
   Bili:102/0.2, Differential-Neuts:58.3 %, Band:0.0 %, Lymph:18.8 %,
   Mono:12.9 %, Eos:9.6 %, Lactic Acid:1.2 mmol/L, Albumin:2.9 g/dL,
   LDH:273 IU/L, Ca++:7.9 mg/dL, Mg++:2.2 mg/dL, PO4:5.1 mg/dL
   Phenobarb 16.6
   Phenytoin 10.2
   [**5-14**]:
 blood cultures G+ cocci in pairs and short chains
   [**5-14**] sputum:  >25 PMN and 4+ Gram + coci in pairs and clusters
   CXR:
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 HYPERTENSION, BENIGN
 LYMPHOMA (CANCER, MALIGNANT NEOPLASM, LYMPHOID)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SEIZURE, WITH STATUS EPILEPTICUS
   75 y/o F with T Cell Lymphoma with CNS involvement with non-convulsive
   recurrent status [**Hospital 6033**] transferred to [**Hospital Unit Name 10**] for elective
   intubation for initiation of phenobarbital,  now persistently requiring
   mechanical ventilation because of ongoing sedation, likely because of
   phenobarbital.
   # Sedation/ Unresponsiveness:  Phenobarbital level has fallen to 16.9,
   and she seems to be waking up.
   Current mental status is likely secondary to persistent phenobarbital.
   This has trended down from a peak of 35 but has persisted in the low
   20s for days.  Although portions of her neurologic exam (ability to
   open eyes, gag) are improved, others (withdrawal to pain) are worse and
   thus it is difficult to say whether there has been any meaningful
   improvement at this point.  Neuro has said that there is no role for
   rpt imaging.
   - continue to check daily phenobarbital levels
   - MRI from last night unchanged from prior on prelim read; f/u fianl
   report
   .
   Seizures/Status Epilepticus: No longer seizing, on keppra and
   fosphenytoin.  Phenobarbital levels are trending down.
   - continue to hold phenobarbital and check levels
   -  would prefer to avoid phenobarbital in the future given prolonged
   sedation, as above
   - continue dilantin dose to 130 tid , will continue to follow daily
   levels of dilantin and free dilantin; adjust accordingly in
   consultation with neurology
   - continue levetiracetam 2000mg to PO bid
   - Neurology to continue following
   - continuous EEG monitorring off as has not seized x 72 hrs
   .
  Ventilatory support.:  Intubated electively for phenobarb initiation
   without underlying acitve pulmonary issues.  Currently on PSV 14/5 and
   tachypneic with small tidal volumes; will increase PSV to 18 in hope of
   decreaseing RR and increasing TV.   The only barrier to extubation
   currently is her  mental status.  Hopefully we will be able to move
   toward this in the upcoming days.
   - discuss with family her current status DURING FAMILY MTG THIS PM
   .
   # Gram + cocci in blood:   Accompanied by leukocytosis and fevers.
   Now in [**3-21**] bottles  Started vanc/zosyn yesterday out of concern for
   VAP.  Would be concerned for VRE as well
   .
   # Thrombocytopenia:  likely secondary to sepsis.
   - check DIC labs
   # Eosinophilia: not checked for days.
   - recheck
   .
   # Anemia:  required blood previously [**4-30**] and [**4-26**] but Hct has been
   stable since
   - check hemolysis and DIC labs
   - guaiac stool
   .
   # Acute renal failure:  likely secondary to volume depletion
   - urine lytes
   - blood transfusion
   .
   #  Hyponatremia: likely not fluid depletion given falling/stable Cr.
   Has multiple etiologies in favor of SIADH.
   - U lytes/osms
   - restrict free H20
  T Cell Lymphoma: Dr. [**Last Name (STitle) 980**] is her neuro-oncologist.
   - Received CHOP, MTX, IT cytarabine
   - leukovorin stopped
   - continuing dexamethasone, on PCP [**Name9 (PRE) 1694**]
   [**Name Initial (PRE) **] Continue Acyclovir for PPX
   Hypertension: well controlled on metoprolol
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2144-5-14**] 03:30 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2144-5-6**] 06:40 PM
   Prophylaxis:
   DVT: SQH
   Stress ulCER: H2B
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR
   Disposition: icu